2142-10-18 07:01:00 Physician Resident Progress Note
Chief Complaint: 66 year old female with complicated GI history s/p
   esophagectomy [**2139**], COPD, atrial arrythmia (MAT vs. atrial
   fibrillation) now trasnferred with acute respiratory distress,
   reucrrent coffee ground emesis, melena now s/p intubation, subclavian
   line placement with pneumothorax, on pressors
   24 Hour Events:
 EKG - At [**2142-10-17**] 05:58 PM
 PNEUMOTHORAX - At [**2142-10-17**] 07:00 PM
 MULTI LUMEN - START [**2142-10-17**] 08:00 PM
 PICC LINE - START [**2142-10-17**] 08:00 PM
   overnight continued to bolus to maintain pressures, was not able to
   wean pressors at all
   stool was gorssly guaic positive, however coffee ground emesis was
   guiac negative.  Chest tube placed by surgery with adequate reexpansion
   of the lung after acute decompression for tension pneumothorax.
   subclavian line had to be pulled back s/p insertion.  Repeat gas this
   morning 7.40/46/67/30.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-17**] 10:55 PM
   Vancomycin - [**2142-10-17**] 11:02 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-10-17**] 06:23 PM
   Fentanyl - [**2142-10-17**] 06:23 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-17**] 09:50 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2142-10-18**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 107 (79 - 123) bpm
   BP: 121/57(73) {68/38(47) - 154/141(230)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (9 - 11)mmHg
   Total In:
                                                                  3,628 mL
                                                                  2,270 mL
   PO:
   TF:
   IVF:
                                                                  3,628 mL
                                                                  2,270 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                  1,131 mL
   Urine:
                                                                    180 mL
                                                                    470 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  3,448 mL
                                                                  1,139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (300 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.28/64/344/25/1
   Ve: 7.9 L/min
   PaO2 / FiO2: 688
   Physical Examination
   General Appearance: Thin, cachetic, malnourished, ET tube in place,
   patient looks uncomfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube, ng
   tube with coffee ground emesis, appears to be putting out less, JVP now
   elevated to jaw
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), no
   murmur appreciated
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: improved breath sounds over right lung field,
   +expiratory wheezing b/l soft
   Abdominal: Soft, Non-tender, decreased bowel sounds
   Extremities: cachetic, cool
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   349 K/uL
   7.8 g/dL
   76 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.8 mEq/L
   11 mg/dL
   109 mEq/L
   142 mEq/L
   24.9 %
   18.4 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:41 PM
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
   WBC
   17.5
   18.4
   Hct
   26.2
   24.9
   Plt
   333
   349
   Cr
   0.4
   0.3
   TropT
   0.05
   0.05
   TCO2
   31
   Glucose
   113
   105
   76
   Other labs: PT / PTT / INR:13.9/31.1/1.2, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:6.8 mg/dL, Mg++:1.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   66 yo female with a significant history of obstructive lung disease and
   now has evolved respiratory failure in the setting of what is likely
   aspiration event and mucus plugging. She has had ICU course complicated
   by significant hypotension and PTX at the time of CVL placement.  She
   does have significant changes in her ECG in the setting of normal
   enzymes but does represent change from previous.
    1)Respiratory Failure-Likely aspiration and mucus plugging in the
   setting of severe background lung disease.  This is supported by
   minimal resistance on the ventilator and capacity to tolerate RR=20
   with minimal autopeep.
   -AC support, weaned fi02 last night in the setting of elevated PaO2
   -NPO and OGT to suction to prevent furthur aspiration
   -Goal PCO2=55-60
   -will get CTA chest this morning to evaluate for possible PE/aspiration
   event
   -cont  Vanco/Zosyn
   -Sputum culture ordered, not yet sent
   - troponin 0.05, CKs are flat, do not suspect myocardial infarction as
   etiology of event
   2)Chronic Obstructive Pulmonary Disease with Acute Exacerbation-
   -Continue with bronchodilators
 xopenex and ipratropium, suspect that
   patient should not get albuterol and xopenex at the same time
   -No systemic steroids at this time as bronchospasm does seem to be
   improved.
    3)Shock-Septic or Hypovolemic
   -CVP is reasonably low, now improved
   - place a-line this morning
   - check cortisol, consider stress dose steroids
   -She may have a component of neuropathic contribution but is not
   hypotensive at baseline
   -No evidence of acute MI to suggest cardiogenic shock and CVP was low
   initially
   -PE raised as possibility but it does appear to be a vasodilatory shock
   state and less likely obstructive, will get echo this morning to rule
   out right heart strain in addition to CTA
   -This may be SIRS in the setting of aspiration pneumonitis
   -move CVP to goal of 12
   -Continue with Levophed and hope to wean with continued volume
   repletion
   -Will work to wean sedation as possible as may be a contributor to
   hypotension,
   4)Atrial Fibrillation-
   -Paitent with A-fib suggested on ECG and telemetry
    -ECG changes may well be demand ischemia and will follow enzymes which
   are negative to date.
   -Will continue Digoxin as patient transiently in sinus rhythm
    5)Pneumonthorax-
   -Chest tube in place, maintain suction
   -Currently with small leak noted
   -Minimal drainage
   - continued chest tube while on postive pressure ventilation and until
   air appears to have drained from chest tube completely
   EKG changes:  Diffuse T wave inversions in inferior and anterior
   distribution.  Most likely related to demand ischemia in RCA and LAD
   territory.  Pulmonary embolism considered but would be less likely to
   cause strain in both arterial territories.  Diffuse changes also less
   consistent with myocardial infarction.
   - repeat EKG after improvement in hemodynamics
   - cycle cardiac enzymes
   - echocardiogram today
   .
   Gastroparesis/nausea/malnutrition:  Currently with dark black material
   in NGT which is hemoccult negative.  Per hospitalist on floor, this
   likely is related to bannana flakes in patient's tube feeds.  On floor
   patient continued to have severe nausea and vomiting in relation to any
   PO intake.  Gastric emptying study showed 0% emptying at 4 hours.  Also
   stool occult positive.
   - serial hematocrits given concern initially for GI bleeding
   - consider gi consult to assess
   - IV reglan
   - active type and cross
   - currently intubated, sedated, NPO
   - nutrition consult
   - currently with significant black material being suctioned from
   stomach so unlikely will be able to administer PO medications or tube
   feeds until this has improved
   - currently holding j-tube feeds
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   .
   Chronic Abdominal Pain:  Likely related to gastritis.  Also concern
   that G-J tube may have possible leak.  Being followed by GI consult
   service.  She has had many upper endoscopies and suboptimal
   colonoscopies.  Plans is currently for optomizing her nutritional
   status and ultimately rehab.
   - currently on fentanyl for sedation, will have to reassess pain
   regimen when sedation decreased
   - reconsult gi?
   - consider other agents such as low dose haldol to improve pain/psych
   issues and wean off a bit of sedation
   - also will calculate total narcotics previously used to assess how
   well we are treating her pain
   .
   Chronic Blood Loss Anemia:  Previously in this admission with mild iron
   deficiency and chronic disease.  Baseline hematocrit 30-35.  Currently
   26 in the setting of significant IV fluid administration.
   - serial hematocrits
   - guaic positive which is chronic, crit is stable
   - transfusion goal < 21
   - active type and screen
   .
   COPD: Severe emphysema on imaging.  Likely contributing to her
   respiratory failure.
   - continue nebulizers of xopenex and ipratropium
   - titrate oxygen for sats > 90%
   .
   Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   - continue fentanyl for sedation
   - reassess pain regimen once medications weaned
   .
   FEN: NPO, IVF for above parameters, nutrition consult, replete
   electrolytes
   .
   Prophylaxis: SC  heparin, bowel regimen
   .
   Code: Full code
   .
   Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is son
   [**Telephone/Fax (1) 851**].
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-17**] 08:00 PM
   PICC Line - [**2142-10-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-18 09:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo women with h/o COPD, esophagectomy.  Admited 40 days ago for
   malnutrition.  Yesterday acutely had respiratory distress.  Vomiting
   coffee ground emesis.  Code blue - intubated emergently.  Never lost
   SBP - 150s.  Admitted to [**Hospital Unit Name 4**].  Dropped BP after sedation started.
   Right subclavian placed, c/b pneumothorax.  Had Chest tube placed.
   Started on pressors, repeated boluses.  EKG with anterolateral Tw
   inversions.  Overnight FiO2 weaned.  Unable to wean pressors. NGT
   drainage guaiac negative
   24 Hour Events:
 EKG - At [**2142-10-17**] 05:58 PM
 PNEUMOTHORAX - At [**2142-10-17**] 07:00 PM
 MULTI LUMEN - START [**2142-10-17**] 08:00 PM
 PICC LINE - START [**2142-10-17**] 08:00 PM
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-17**] 10:55 PM
   Vancomycin - [**2142-10-17**] 11:02 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-10-17**] 06:23 PM
   Fentanyl - [**2142-10-17**] 06:23 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-17**] 09:50 PM
   Other medications:
   CaCO3
   reglan
   remeron
   dig
   vitamin D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Jaundice
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2142-10-18**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 106 (79 - 123) bpm
   BP: 112/48(61) {68/38(47) - 154/141(230)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (9 - 14)mmHg
   Total In:
                                                                  3,628 mL
                                                                  2,313 mL
   PO:
   TF:
   IVF:
                                                                  3,628 mL
                                                                  2,313 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                  1,381 mL
   Urine:
                                                                    180 mL
                                                                    720 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  3,448 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (300 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/46/67/25/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Left base,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, J-tube
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   349 K/uL
   76 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.8 mEq/L
   11 mg/dL
   109 mEq/L
   142 mEq/L
   24.9 %
   18.4 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:41 PM
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
   WBC
   17.5
   18.4
   Hct
   26.2
   24.9
   Plt
   333
   349
   Cr
   0.4
   0.3
   TropT
   0.05
   0.05
   TCO2
   31
   30
   Glucose
   113
   105
   76
   Other labs: PT / PTT / INR:13.4/31.1/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:6.8 mg/dL, Mg++:1.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Respiratory failure:  Prior Chest CT with food material in esophagus up
   to thoracic inlet - suspect aspiration as cause of respiratory
   failure.  Continue current vent settings.
                                    Continue Vanco and Zosyn for
   aspiration PNA.
                                    COPD:  Continue Atrovent/albuterol
   MDIs.
   HOTN:  Will need to place A-line, as unclear about reliability of her
   BPs.  HOTNsion likely multifactorial due to sedation, or sepsis with
   aspiration.
   EKG changes:  Anterior Tw inversions.  Likely has CAD.  Lack of
   troponin leak suggests demand ischemia.  Hold ASA has GIB has been an
   issue.
   Sedation:  Try haldol for agitation. Will total up her baseline
   narcotics dosage.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-17**] 08:00 PM
   PICC Line - [**2142-10-17**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2142-10-19 07:47:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 ARTERIAL LINE - START [**2142-10-18**] 09:30 AM
 TRANSTHORACIC ECHO - At [**2142-10-18**] 10:27 AM
   -Had one episode of tachycardia to 200s, hypotension, agitation- likely
   secondary to bolus of sedatives. Improved w/1L fluid bolus and
   adjustment of levophed.
   -TEE done- pending results.
   -Did not do well on PS yesterday, will not be weaned at this time.
   -Left A-line to be placed.
   -NGT output guaiac -, stool is guaiac +
   -Urine ctx + for E.coli (preliminary, f/u sensitivities)
   -Nutrition recs, will restart Jtube feeds, keep NG on suction.
   -Tried PS- apnea for over 30sec- put back on previous settings
   -R hand looks swollen
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2142-10-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-19**] 06:11 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-18**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-19**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 95 (81 - 110) bpm
   BP: 119/64(82) {101/54(68) - 135/81(100)} mmHg
   RR: 21 (19 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (8 - 26)mmHg
   Total In:
                                                                  4,128 mL
                                                                    417 mL
   PO:
   TF:
                                                                      7 mL
                                                                     94 mL
   IVF:
                                                                  4,062 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  3,016 mL
                                                                  1,120 mL
   Urine:
                                                                  2,030 mL
                                                                    615 mL
   NG:
                                                                    950 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -703 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.44/42/63/26/3
   Ve: 6.8 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), JVD 8cm.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Wheezes : expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Right hand extremely swollen,
   no skin changes, palpable pulses. Has PICC In place.
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement: No
   spontaneous movement, Sedated, Tone: Normal
   Labs / Radiology
   331 K/uL
   8.3 g/dL
   85 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.6 mEq/L
   5 mg/dL
   104 mEq/L
   137 mEq/L
   25.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:41 PM
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
   WBC
   17.5
   18.4
   15.8
   13.8
   Hct
   26.2
   24.9
   25.4
   25.6
   Plt
   333
   349
   328
   331
   Cr
   0.4
   0.3
   0.4
   0.3
   TropT
   0.05
   0.05
   TCO2
   31
   30
   29
   Glucose
   113
   105
   76
   80
   85
   Other labs: PT / PTT / INR:13.3/33.3/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment/Plan: 66 year old female with COPD on 2L oxygen, esophageal
   perforation s/p esophagectomy and severe gastroparesis transferred to
   the [**Hospital Unit Name 4**] for acute respiratory failure requiring intubation.
   Acute Respiratory Failure:  Both hypercarbic and hypoxic.  Patient
   initially suctioned with retrieval of large mucous plug but
   subsequently started vomiting with inability to protect airway
   requiring emergent intubation.  Suspect respiratory failure is
   multifactorial relating to patient's underlying severe emphysema,
   mucous plugging and possible pneumonia.  Pulmonary embolism and cardiac
   ischemic also considered given respiratory failure and hypotension
   although would expect CVP to be elevated in these settings and clinical
   picture more consistent with other etiologies.
   - start vancomycin and zosyn for hospital acquired pneumonia
   - xopenex and ipratropium nebulizers
   - deep suctioning if possible
   - will send sputum sample
   - blood and urine culures pending
   - repeat CXR in AM
   - cycle cardiac enzymes
   Shock:  Patient became acutely hypotensive upon arrival to the MICU.
   Occurred in the setting of initiating sedating medications and
   intubation.  Also occurred in the setting of mucous plugging, rising
   white blood cell count and concern for aspiration.  CVP is low which
   would be consistent with either hypovolemic shock, decreased preload
   from medications and effects of positive pressure ventilation, and
   septic shock.  Cardiac and obstructive etiologies also considered given
   EKG changes but for now clinical picture appears more consistent
   infection vs. decreased preload.
   - IVF fluid boluses to maintain CVP 10-12, urine output 30cc/hr and SBP
   > 90
   - Levophed to maintain above paremeters
   - Repeat EKG
   - Rule out for myocardial infarction with serial cardiac enzymes
   - Vancomycin and Zosyn to cover for hospital acquired pneumonia
   - Repeat CXR in AM to assess size of pneumothorax
   - Attempt to limit use of midazolam since patient's blood pressures
   seem particularly sensitive to this [**Doctor Last Name **]
   - echocardiogram in AM
   Tension Pneumothorax:  Now s/p decompression and chest tube placement
   with good re-expansion on CXR.  Air leak present.
   - chest tube to suction
   - serial CXR
   Multifocal Atrial Tachycardia: Currently her rate is in the 100s.
   - continue digoxin
   - holding metoprolol given hypotension
   EKG changes:  Diffuse T wave inversions in inferior and anterior
   distribution.  Most likely related to demand ischemia in RCA and LAD
   territory.  Pulmonary embolism considered but would be less likely to
   cause strain in both arterial territories.  Diffuse changes also less
   consistent with myocardial infarction.
   - repeat EKG after improvement in hemodynamics
   - cycle cardiac enzymes
   - echocardiogram in AM
   Gastroparesis/nausea/malnutrition:  Currently with dark black material
   in NGT which is hemoccult negative.  Per hospitalist on floor, this
   likely is related to bannana flakes in patient's tube feeds.  On floor
   patient continued to have severe nausea and vomiting in relation to any
   PO intake.  Gastric emptying study showed 0% emptying at 4 hours.
   - serial hematocrits given concern initially for GI bleeding
   - active type and cross
   - currently intubated, sedated
   - nutrition consult in AM
   - currently with significant black material being suctioned from
   stomach so unlikely will be able to administer PO medications or tube
   feeds until this has improved
   - currently holding j-tube feeds
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   Chronic Abdominal Pain:  Likely related to gastritis.  Also concern
   that G-J tube may have possible leak.  Being followed by GI consult
   service.  She has had many upper endoscopies and suboptimal
   colonoscopies.  Plans is currently for optomizing her nutritional
   status and ultimately rehab.
   - currently on fentanyl for sedation, will have to reassess pain
   regimen when sedation decreased
   - follow gastroenterology recommendations
   Chronic Blood Loss Anemia:  Previously in this admission with mild iron
   deficiency and chronic disease.  Baseline hematocrit 30-35.  Currently
   26 in the setting of significant IV fluid administration.
   - serial hematocrits
   - transfusion goal < 21
   - active type and screen
   COPD: Severe emphysema on imaging.  Likely contributing to her
   respiratory failure.
   - continue nebulizers
   - titrate oxygen for sats > 90%
   Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   - continue fentanyl for sedation
   - reassess pain regimen once medications weaned
   FEN: NPO, IVF for above parameters, nutrition consult, replete
   electrolytes
   Prophylaxis: SC  heparin
   Code: Full code
   Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is son
   [**Telephone/Fax (1) 851**].
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-18**] 11:20 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-17**] 08:00 PM
   PICC Line - [**2142-10-17**] 08:00 PM
   Arterial Line - [**2142-10-18**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-19 11:18:00 Physician Attending Progress Note
Chief Complaint: Reapiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2142-10-18**] 09:30 AM
 TRANSTHORACIC ECHO - At [**2142-10-18**] 10:27 AM
   -Some worsening upper extremity edema
   -PSV wean not tolerated
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-19**] 06:11 AM
   Vancomycin - [**2142-10-19**] 08:12 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-18**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2142-10-19**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 98 (81 - 110) bpm
   BP: 86/47(59) {86/46(59) - 135/81(100)} mmHg
   RR: 22 (20 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 9 (8 - 13)mmHg
   Total In:
                                                                  4,128 mL
                                                                    753 mL
   PO:
   TF:
                                                                      7 mL
                                                                    158 mL
   IVF:
                                                                  4,062 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  3,016 mL
                                                                  1,195 mL
   Urine:
                                                                  2,030 mL
                                                                    690 mL
   NG:
                                                                    950 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.44/42/63/26/3
   Ve: 8 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right: Right upper extremity with worsening edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   331 K/uL
   85 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.6 mEq/L
   5 mg/dL
   104 mEq/L
   137 mEq/L
   25.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:41 PM
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
   WBC
   17.5
   18.4
   15.8
   13.8
   Hct
   26.2
   24.9
   25.4
   25.6
   Plt
   333
   349
   328
   331
   Cr
   0.4
   0.3
   0.4
   0.3
   TropT
   0.05
   0.05
   TCO2
   31
   30
   29
   Glucose
   113
   105
   76
   80
   85
   Other labs: PT / PTT / INR:13.3/33.3/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR--right chest tube with lung expanded.  CVL centrally
   placed. Rotated film noted
   Assessment and Plan
   66 yo female admit with respiratory failure and likley aspiration event
   and mucus plugging in the setting of a history of esophagectomy and
   initial emergent placement of SCV catheter was complicated by
   pneumothorax.  She has had some improvement in hemodynamics but remains
   with pressor requirement.
   1)Respiratory Failure-
   -Primary hypoxemia persists.  She has reasonable control of her
   ventialtion with adequate Ve maintained
   -Pneumothorax has resolved and air leak is not seen
   -Source is multi-factorial for persistent hypoxemic respiratory failure
   -[**Month (only) 8**] be contribution from left sided collapse
will maintain adequate
   PEEP
   -[**Month (only) 8**] be underlying pulmonary disease with significant emphysema and
   ineffective V/Q with significant apical dead space.
   -[**Month (only) 8**] be PE as has been raised but there is alternative explanations
   offered
given persistent hypoxemia will have to re-consider diagnosis
   if no clinical improvement seen.  Will check LENI at this time.
   2)COPD with acute exacerbation-
   -Continue with bronchodilators
   -Continue with ABX for pulmonary infection and sepsis
   3)Sepsis-Likely from pulmonary source
   -Continue antibiotics
   -Wean pressors
   -Keep CVP=12 as goal
   4)Pneumothorax-
   -Move to water seal today
   -Repeat CXR to evaluate PTX
   -Will continue to discuss with surgery as to timing of removal but
   would favor maintenance while PPV is in place
   5)Atrial Tachycardia-
   -Lopressor held
   ICU Care
   Nutrition: Tube feeds started at 20cc/hr
   Nutren Pulmonary (Full) - [**2142-10-18**] 11:20 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2142-10-17**] 08:00 PM
   PICC Line - [**2142-10-17**] 08:00 PM
   Arterial Line - [**2142-10-18**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2142-10-20 07:08:00 Physician Resident Progress Note
Chief Complaint: 66 year old female with complicated GI hyistory s/p
   esophagectomy [**2139**] now transferred with acute respiratory failure
   likely from a combination of mucus plugging and aspiration.
   24 Hour Events:
 ULTRASOUND - At [**2142-10-19**] 02:50 PM
   Patient had LENIs yesterday bilaterally which were negative as well as
   right upper extremity ultrasound which was negative. as no evidence of
   right heart strain on echo with lenis negative, decided no need for CTA
   at this time. Midline was pulled yesterday as appeared infiltrated.
   Patient off neo since yesterday PM. Required fluid bolus for 1x 500
   cc/hr for systolic blood pressure in 70s with adequate reponse. again
   this morning, bolused with 1x 500 cc/hr.
   Sputum culturle [**11-24**] PMNs with 3+ gram negative rods, 2+ budding
   yeast. Urine cx
 e. coli sensitive to gent with borderline sensitivies
   to pip/tazo. C diff negative.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2142-10-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-20**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2142-10-20**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (84 - 118) bpm
   BP: 90/54(67) {84/46(59) - 185/99(129)} mmHg
   RR: 20 (16 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 mmHg
   Total In:
                                                                  2,065 mL
                                                                  1,481 mL
   PO:
   TF:
                                                                    538 mL
                                                                    208 mL
   IVF:
                                                                  1,477 mL
                                                                  1,273 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                    912 mL
   Urine:
                                                                  1,855 mL
                                                                    555 mL
   NG:
                                                                    650 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 97%
   ABG: ///29/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: cachetic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), borderline tachycardic, no
   murmur appreciated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, J tube in place
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   314 K/uL
   8.3 g/dL
   86 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.2 mEq/L
   6 mg/dL
   103 mEq/L
   137 mEq/L
   25.7 %
   13.1 K/uL
         [image002.jpg]
                             [**2142-10-17**]  08:41 PM
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
   WBC
   17.5
   18.4
   15.8
   13.8
   13.1
   Hct
   26.2
   24.9
   25.4
   25.6
   25.7
   Plt
   333
   349
   328
   331
   314
   Cr
   0.4
   0.3
   0.4
   0.3
   0.4
   TropT
   0.05
   0.05
   TCO2
   31
   30
   29
   Glucose
   113
   105
   76
   80
   85
   86
   Other labs: PT / PTT / INR:12.7/33.3/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment/Plan: 66 year old female with COPD on 2L oxygen, esophageal
   perforation s/p esophagectomy and severe gastroparesis transferred to
   the [**Hospital Unit Name 4**] for acute respiratory failure requiring intubation.
   Acute Respiratory Failure:  Hypoxic respiratory failure with
   echocardiogram without pericardial effusion or right ventricular
   strain. Patient is currently being treated for an aspiration PNA with
   Vanc/Zosyn. Patietn also has underlying emphysema, may have mucus plug.
   Pt also with a pneumothorax in the right side after subclavian line
   placement. A-a gradient 241. Patient with improving O2 requirements,
   but still hypoxic.
   -Continue vancomycin/Zosyn for aspiration coverage
   -F/u culture data
   -treid to measure dead space ventilation but no CO2 equivalent in this
   campus, didnt' happen yesterday
   -Repeat CXR in AM
   - change nebs to standing
   Shock: Patient with pneumonia and hypotension in the setting of
   sedation, mediactions and possibly transient bacteremia. CVP is better
   with boluses. Echocardiogram with EF >55% and moderate pulmonary
   hypertension.
   -Continue fluid boluses; goal CVP 10-12
   - will speciate enterobacter in urine
    Tension Pneumothorax:  Now s/p decompression and chest tube placement
   with good re-expansion on CXR.  No air leak present now.
   - chest tube to water seal yesterday, repeat chest x-ray without
   evidence of pneumothorax
   - serial CXR
   Multifocal Atrial Tachycardia: Currently her rate is in the 100s.
   - continue digoxin
   - holding metoprolol given hypotension
    Gastroparesis/nausea/malnutrition:  Currently with dark black material
   in NGT which is hemoccult negative.  Per hospitalist on floor, this
   likely is related to bannana flakes in patient's tube feeds.  On floor
   patient continued to have severe nausea and vomiting in relation to any
   PO intake.  Gastric emptying study showed 0% emptying at 4 hours.
   - serial hematocrits given concern initially for GI bleeding however
   guaic negative with stable crit
   - currently intubated, sedated- currently with significant black
   material being suctioned from stomach so unlikely will be able to
   administer PO medications or tube feeds until this has improved
   - currently on j-tube feeds
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
    Chronic Blood Loss Anemia:  Previously in this admission with mild
   iron deficiency and chronic disease.  Baseline hematocrit 30-35.
   Currently 26 in the setting of significant IV fluid administration.
   - serial hematocrits
   - transfusion goal < 21
   - active type and screen
    COPD: Severe emphysema on imaging.  Likely contributing to her
   respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats > 90%
    Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   - continue fentanyl for sedation
   - reassess pain regimen once medications weaned
    FEN: NPO, IVF for above parameters, replete electrolytes
    Prophylaxis: SC  heparin, [**Hospital1 **], PPI
    Code: Full code
    Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is son
   [**Telephone/Fax (1) 851**].
   Lines : right subclavian, remove line b/c of erythema and ? pus, and
   would replace with possible IJ
    Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-19**] 10:26 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-17**] 08:00 PM
   PICC Line - [**2142-10-17**] 08:00 PM
   Arterial Line - [**2142-10-18**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-20 10:44:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.
   24 Hour Events:
   Off pressors since yest afternoon.
   Urine cx: gent sensitive E Coli with borderline sensitivity to
   pip/[**Last Name (LF) 922**], [**First Name3 (LF) **] gent added.
   Sputum cx 3+GNR.
   CDiff neg.
   Febrile now 101.4.
   Patient unable to provide history: intubated
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-20**] 06:00 AM
   Vancomycin - [**2142-10-20**] 08:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Key Points:
   66 yo female admit with respiratory failure and likley aspiration event
   and mucus plugging in the setting of a history of esophagectomy and
   initial emergent placement of SCV catheter was complicated by
   pneumothorax, resolved with CT in place.  Off pressors.
   Septic shock: pulm and urinary tract infection. Adding gent. Will
   remove right SCL and place new central line today.
   Pneumothorax: CT on water seal, no recurrent pneumothorax. Will plan
   for extubation next week.
   Resp failure: multifactorial. Not requiring high FiO2.
    I reviewed CT from [**10-15**] and noted dense LLL consolidation, large
   stomach in left thorax, no significant tracheobronchomalacia (though
   not dedictated airway CT with expiratory views).  Etiology of severe
   resp failure attributable to severe emphysema and worsened V/Q mismatch
   with dense consolidation from asp pna.
   Severe malnutrition: J-tube
 not getting goal nutrition. Will consider
   TPN after reviewing tube feed hx.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-19**] 10:26 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-17**] 08:00 PM
   PICC Line - [**2142-10-17**] 08:00 PM
   Arterial Line - [**2142-10-18**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:
   Error- meant to say chest tube REMOVAL, not EXTUBATION above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2142-10-21**] 11:08 ------

2142-10-21 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2142-10-20**] 11:15 AM for Fever of 101.4 at 10am
 MULTI LUMEN - START [**2142-10-20**] 05:15 PM  (RIJ)
 MULTI LUMEN - STOP [**2142-10-20**] 08:02 PM (subclavian)
   - started on gentamycin for E.coli, Enterococcus in urine
   - sputum cx + GNR
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-20**] 06:00 AM
   Vancomycin - [**2142-10-20**] 07:32 PM
   Gentamicin - [**2142-10-21**] 03:02 AM
   Piperacillin - [**2142-10-21**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-20**] 09:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-21**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.8
   HR: 86 (85 - 125) bpm
   BP: 121/62(85) {78/42(54) - 123/63(85)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 263 (0 - 269)mmHg
   Total In:
                                                                  3,355 mL
                                                                  1,673 mL
   PO:
   TF:
                                                                    798 mL
                                                                    232 mL
   IVF:
                                                                  2,507 mL
                                                                  1,441 mL
   Blood products:
   Total out:
                                                                  3,457 mL
                                                                  1,240 mL
   Urine:
                                                                  2,950 mL
                                                                  1,020 mL
   NG:
                                                                    500 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -102 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 15 cmH2O
   Plateau: 11 cmH2O
   Compliance: 58.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/40/107/31/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 214
   Physical Examination
   GEN: Alert and awake, not following commands (sedated, intubated)
   HEENT: NCAT MMM pink conjunctiva non-injected, anicteric
   CV: RRR S1S2 no JVD no bruits 1+dp pulses
   PULM: rhonchus on inspiration with expiratory wheezes throughout
   ABD: soft nontender nondistended hypoactive bs no masses, HSM
   EXT: R arm edematous, L arm is cool compared to R (side of A-line), b/l
   lower ext cool, 1+dp pulses
   SKIN: no rashes, jaundice
   Labs / Radiology
   333 K/uL
   7.4 g/dL
   91 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   6 mg/dL
   107 mEq/L
   141 mEq/L
   23.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:41 PM
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
   WBC
   17.5
   18.4
   15.8
   13.8
   13.1
   12.1
   Hct
   26.2
   24.9
   25.4
   25.6
   25.7
   23.5
   Plt
   333
   349
   328
   [**Telephone/Fax (3) 933**]
   Cr
   0.4
   0.3
   0.4
   0.3
   0.4
   0.4
   TropT
   0.05
   0.05
   TCO2
   31
   30
   29
   29
   Glucose
   113
   105
   76
   80
   85
   86
   91
   Other labs: PT / PTT / INR:12.7/33.3/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   Hypoxic respiratory failure:  Known COPD and emphysema exacerbated by
   aspiration pneumonia. Inititally question of mucus plugging as well.
   She currently has a small, stable R sided PTX [**3-3**] subclavian line
   placement. Patient continued to be vented, without changes in setting
   overnight secondary to not being able to protect airway, secretions.
   Sputum today with 3+GNR and 2+ budding yeast suggestive of aspiration
   PNA, and likely covered by gentamycin, zosyn and vancomycin.
   -Continue vancomycin/Zosyn  for aspiration coverage
   -F/u culture data
   -treid to measure dead space ventilation but no CO2 equivalent in this
   campus, didnt' happen yesterday
   -Repeat CXR in AM
   - attempt to wean sedation and try PS
   Shock: Patient in shock likely [**3-3**] urosepsis, PNA all involving GRN for
   which she is receiving zosyn, gentamycin . CVP is better with boluses.
   Echocardiogram with EF >55% and moderate pulmonary hypertension.
   - continue fluid boluses; goal CVP 10-12
   - speciate GNR in sputum and adjust coverage as needed
   - gent/vanco/zosyn
    Tension Pneumothorax:  Now s/p decompression and chest tube placement
   with good re-expansion on CXR.  Air leak noted today while pt on water
   seal. Put back on low suction, will follow with CXR and reconsider d/c
   CT tomorrow
   -? d/c CT tomorrow
   - chest tube to low suction
   - check CXR this PM
   -f/u thoracic recs
   Multifocal Atrial Tachycardia: Currently her rate is in the 100s.
   - continue digoxin
   - holding metoprolol given hypotension
    Gastroparesis/nausea/malnutrition:  There is question whether or not
   patient is absorbing her TF. Residuals have been minimal which is
   promising however it is possible she has bowel edema that prevents her
   from absorbing nutrients, causing her malnutrition. Will try to give
   tylenol today and see if she is absorbing it, which will help us assess
   her GI fxn. For now will continue TF, replete electrolytes and f/u
   nutrition recs if they feel we should be switching to TPN sooner.
   - f/u nutrition recs
   - tylenol test
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
    Chronic Blood Loss Anemia:  Previously in this admission with mild
   iron deficiency and chronic disease.  Baseline hematocrit 30-35.
   Currently 23 in the setting of significant IV fluid administration,
   however her hct has trended down since admission. Has been guaiac + but
   this has been her baseline and there is question whether this is caused
   by irritation at the J-tube site. Will transfuse as needed for now if
   needed; she is hemodynamically stable.
   - serial hematocrits
   - transfusion goal < 21
   - active type and screen
    COPD: Severe emphysema at baseline which is significant contributor of
   her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats > 90%
    Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   - continue fentanyl for sedation
   - reassess pain regimen once medications weaned
    FEN: TF for now, IVF for above parameters, replete electrolytes
    Prophylaxis: SC  heparin, [**Hospital1 **], PPI
    Code: Full code
    Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is son
   [**Telephone/Fax (1) 851**].
   Lines : RIJ, PIV
    Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-21**] 04:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2142-10-18**] 09:30 AM
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-22 07:03:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2142-10-21**] 02:30 PM
   -Tylenol test: pt received 1g of tylenol PO and level afterwards was
   24, which is a rough indicative of good absorption. Since there are low
   residuals as well, there is motility and absorption. No need for TPN
   for now.
   - K repleted
   - Chest tube to suction and follow w/CXR per thoracics
   - Start standing haldol and seroquel for agitation and attempt to wean
   off sedatives. Patient is difficult to wean as gets very agitated with
   tachycardia/hypertension episodes when sedation is decreased.
   - Overnight tried PS 10/5 50%, she tolerated well w/TV low 400s.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2142-10-21**] 05:00 AM
   Vancomycin - [**2142-10-21**] 07:07 PM
   Gentamicin - [**2142-10-22**] 03:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-22**] 05:23 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-10-21**] 08:00 AM
   Fentanyl - [**2142-10-21**] 08:36 AM
   Haloperidol (Haldol) - [**2142-10-21**] 08:49 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-21**] 10:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-22**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 77 (69 - 110) bpm
   BP: 119/58(73) {99/47(61) - 152/76(85)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 1 (1 - 11)mmHg
   Total In:
                                                                  4,299 mL
                                                                    602 mL
   PO:
   TF:
                                                                    904 mL
                                                                    309 mL
   IVF:
                                                                  3,195 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                    870 mL
   Urine:
                                                                  3,595 mL
                                                                    820 mL
   NG:
                                                                    200 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    484 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 400 (400 - 410) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 18 cmH2O
   Plateau: 9 cmH2O
   Compliance: 87.5 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), JVD no visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   354 K/uL
   7.5 g/dL
   96 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.3 mEq/L
   7 mg/dL
   105 mEq/L
   138 mEq/L
   23.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
   WBC
   17.5
   18.4
   15.8
   13.8
   13.1
   12.1
   8.7
   Hct
   26.2
   24.9
   25.4
   25.6
   25.7
   23.5
   23.9
   Plt
   333
   349
   328
   [**Telephone/Fax (3) 933**]
   354
   Cr
   0.4
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.05
   0.05
   TCO2
   30
   29
   29
   Glucose
   105
   76
   80
   85
   86
   91
   96
   Other labs: PT / PTT / INR:12.7/33.3/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Known COPD and emphysema exacerbated by
   aspiration pneumonia. Inititally question of mucus plugging as well.
   She currently has a small, stable R sided PTX [**3-3**] subclavian line
   placement.  Sputum with 3+GNR and 2+ budding yeast suggestive of
   aspiration PNA, and likely covered by zosyn and vancomycin.  Patient
   now on pressure support [**11-4**] with FiO2 of 50%. She is moving ~350cc and
   RR 15 with those settings. Patient almost at baseline mental status,
   diminished gag reflex, normal secretions, but got very agitated,
   tachycardic, hypertensive and desated when tried to be weaned. Now on
   Haldol standing plus zyprexa PRN.
   - Continue vancomycin/Zosyn  for aspiration coverage (day 2 and 5
   respectively)
   - F/u culture data
   - attempt to wean sedation and decrease FiO2; may be candidate for
   extubation later today.
   - Keep chest tube for today, since there is still PTX on CXR
   # Agitation: Patient became agitated when tried to be weaned of vent.
   -          Continue haldol PRN
   -          Continue Quetitapine PRN
   # Shock: Patient in shock likely [**3-3**] urosepsis & PNA all involving GRN
   for which she is receiving zosyn. Echocardiogram with EF >55% and
   moderate pulmonary hypertension.
   - continue fluid boluses; goal CVP 10-12
   - speciate GNR in sputum and adjust coverage as needed
   - vanco/zosyn (day 2 and 5 respectively)
   # Tension Pneumothorax:  Now s/p decompression and chest tube placement
   with good re-expansion on CXR.  Air leak noted today while pt on water
   seal yesterday. Put back on low suction, will follow final read of CXR
   and if no pneumo will try again to put on water seal.
   - chest tube to low suction
   - check CXR this PM
   - f/u thoracic recs
   # Multifocal Atrial Tachycardia: Currently her rate is in the 80s.
   - continue digoxin
   - can restart metoprolol today
   # Gastroparesis/nausea/malnutrition:  There is question whether or not
   patient is absorbing her TF. Residuals have been minimal which is
   promising however it is possible she has bowel edema that prevents her
   from absorbing nutrients, causing her malnutrition. Patient absorbed
   tylenol, so there is some degree of absorption. Will continue TF for
   now.
   - f/u nutrition recs
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Previously in this admission with mild
   iron deficiency and chronic disease.  Baseline hematocrit 30-35.
   Currently 23 in the setting of significant IV fluid administration,
   however her hct has trended down since admission. Has been guaiac + but
   this has been her baseline and there is question whether this is caused
   by irritation at the J-tube site. Will transfuse as needed for now if
   needed; she is hemodynamically stable.
   - serial hematocrits
   - transfusion goal < 21
   - active type and screen
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   - continue fentanyl for sedation
   - reassess pain regimen once medications weaned
   # FEN: TF for now, IVF for above parameters, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-22**] 05:02 AM 30 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Mouthwash
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, until off the vent and stable for floor

2142-10-22 10:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2142-10-21**] 02:30 PM
   GNR's in sputum culture identified
   Patient with wean to PSV yesterday
   Mild agitation noted and Rx. with Haldol
   CVL changed with purulent changes noted at the site this weekend.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2142-10-21**] 05:00 AM
   Gentamicin - [**2142-10-22**] 03:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-22**] 05:23 AM
   Vancomycin - [**2142-10-22**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2142-10-21**] 08:49 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-22**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 71 (69 - 110) bpm
   BP: 131/64(78) {99/47(61) - 152/76(85)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 1 (1 - 11)mmHg
   Total In:
                                                                  4,299 mL
                                                                    998 mL
   PO:
   TF:
                                                                    904 mL
                                                                    390 mL
   IVF:
                                                                  3,195 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                    870 mL
   Urine:
                                                                  3,595 mL
                                                                    820 mL
   NG:
                                                                    200 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    484 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 406 (400 - 410) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 16 cmH2O
   Plateau: 9 cmH2O
   Compliance: 87.5 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   354 K/uL
   96 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.3 mEq/L
   7 mg/dL
   105 mEq/L
   138 mEq/L
   23.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2142-10-17**]  08:45 PM
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
   WBC
   17.5
   18.4
   15.8
   13.8
   13.1
   12.1
   8.7
   Hct
   26.2
   24.9
   25.4
   25.6
   25.7
   23.5
   23.9
   Plt
   333
   349
   328
   [**Telephone/Fax (3) 933**]
   354
   Cr
   0.4
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.05
   0.05
   TCO2
   30
   29
   29
   Glucose
   105
   76
   80
   85
   86
   91
   96
   Other labs: PT / PTT / INR:12.7/33.3/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-
   IJ catheter-2.5 cm into RA
   CT in good position
   ETT 3cm above carina
   Persistent and substantial SQ air noted in right chest.
   Assessment and Plan
   66 yo female with gastroparesis, s/p esophagectomy and with signficiant
   COPD admit to ICU with hypoxemic respiratory failure likley secondary
   to aspiraiton and superinfection with GNR's.  She has had some capacity
   to tolerate PSV at this time but retains
   Some significant ventilatory requirement.  Of note as well is chest
   tube has minimal drainage but persistent air leak.
   1)Respiratory Failure-Secondary to aspiraiton, pneumonia and underlying
   COPD.  She has Ve-7.5 and RR=16 suggesting reasonable compliance and
   tolerance of PSV wean.  Secretions remain limited.  RSBI <105 this
   morning
   -Will trial on SBT after 60 minutes with 7/0 and check ABG at that time
   -Vanco/Gent/Zosyn continuing
   -Atrovent to continue
   -Hope to trial extubation later today based upon response to SBT
   -Wean sedation this morning and tiral haldol this morning
   2)Pneumonia-
   Vanco/Zosyn
   3)Pneumothorax-
   -Chest tube with one chamber leak this morning on water seal
   -Hemodynamics not changed this morning
   -Would favor water seal until leak is resolved
   -Will discuss with T-[**Doctor First Name **]
   -Given emphysema and likely bullous disease may have to consider
   pleuradhesis if leak not resolving
   3)Gastroparesis-
   Reglan
   4)Agitation-
   Haldol/Zyprexa
   ICU Care
   Nutrition: NPO this morning for possible extubation
   Nutren Pulmonary (Full) - [**2142-10-22**] 05:02 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2142-10-23 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -failed SBT, became tachypneic, hypoxic.
   -metoprolol restarted
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2142-10-21**] 05:00 AM
   Gentamicin - [**2142-10-22**] 11:44 AM
   Vancomycin - [**2142-10-22**] 07:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-23**] 05:07 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-22**] 02:59 PM
   Haloperidol (Haldol) - [**2142-10-22**] 09:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 72 (63 - 121) bpm
   BP: 96/47(57) {96/45(57) - 170/97(103)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,323 mL
                                                                    471 mL
   PO:
             TF:
                                                                    829 mL
                                                                    220 mL
   IVF:
                                                                  1,355 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                  1,270 mL
   Urine:
                                                                  3,685 mL
                                                                  1,020 mL
   NG:
                                                                     50 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,412 mL
                                                                   -799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 336 (299 - 524) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 5.4 L/min
   Physical Examination
   HEENT: NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2 no m/r/g no JVD
   PULM: clear bilaterally with scant bibasilar crackles, L sided chest
   tube in place, dressing c/d/I,
   ABD: soft nontender nondistended, Jtube in place and dressing c/d/I,
   hypoactive bs
   EXT: WWW 1+dp pulses
   SKIN: no rashes, petechiae
   NEURO: Sedated but wakes up to voice and can answer w/head nod yes/no
   questions;
   Labs / Radiology
   453 K/uL
   7.8 g/dL
   91 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   137 mEq/L
   25.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
   WBC
   18.4
   15.8
   13.8
   13.1
   12.1
   8.7
   8.3
   Hct
   24.9
   25.4
   25.6
   25.7
   23.5
   23.9
   25.5
   Plt
   349
   328
   331
   [**Telephone/Fax (3) 995**]
   453
   Cr
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TropT
   0.05
   TCO2
   30
   29
   29
   Glucose
   76
   80
   85
   86
   91
   96
   91
   Other labs: PT / PTT / INR:13.0/30.9/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Severe COPD exacerbated by aspiration
   pneumonia. Also with R sided stable PTX on water seal..  Sputum with
   3+GNR and 2+ budding yeast c/w aspiration PNA, covered by zosyn and
   vancomycin.  Continues on PS. Did not do well with SBT and continues to
   have moderate thick secretions. Will reassess again this morning for
   potential extubation later today.
   - F/u speciation on culture data
   - attempt to wean sedation and decrease FiO2
   -if appropriate, extubate today.
   - Follow PTX on CXR this afternoon
   # Agitation: Improved w/haldol, seroquel.
   -Continue haldol PRN
   -Continue Quetitapine PRN
   # Shock: Patient in shock likely [**3-3**] urosepsis & gram negative
   aspiration PNA. Echocardiogram with EF >55% and moderate pulmonary
   hypertension.
   - continue fluid boluses; goal CVP 10-12 and adequate UOP
   - speciate GNR in sputum and adjust coverage as needed
   - vanco/zosyn (day 3 and 6 respectively)
   # Tension Pneumothorax:  Now s/p decompression and chest tube placement
   with good re-expansion on CXR.  Air leak noted on low suction, will
   follow on  CXR.
   - chest tube to water seal
   - check CXR this PM
   - f/u thoracic recs
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with restarting metoprolol.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals.
   - f/u nutrition recs
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Stable over last couple of days.
   Initially concern for GI bleed given positive guaiacs but apparently
   this is a baseline issue, potentially d/t irritation at Jtube site.
   Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. If extubated will need to be switched to eithe PO or IV
   pain meds (if fentanyl/medazolam is switched off prior to extubation).
   - continue fentanyl for sedation
   - reassess pain regimen once sedation weaned
   # FEN: TF, IVF, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-22**] 09:24 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-23 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Chest Tube to Water Seal today
   2)Patient with Lopressor restart
   3)SBT limited by tachypnea and hypoxia without signficant agitation
   noted
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2142-10-21**] 05:00 AM
   Gentamicin - [**2142-10-22**] 11:44 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-23**] 05:07 AM
   Vancomycin - [**2142-10-23**] 07:43 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2142-10-22**] 09:46 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-23**] 08:01 AM
   Pantoprazole (Protonix) - [**2142-10-23**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2142-10-23**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 82 (63 - 121) bpm
   BP: 116/38(56) {96/38(48) - 170/97(103)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,323 mL
                                                                    974 mL
   PO:
             TF:
                                                                    829 mL
                                                                    353 mL
   IVF:
                                                                  1,355 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                  2,170 mL
   Urine:
                                                                  3,685 mL
                                                                  1,920 mL
   NG:
                                                                     50 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,412 mL
                                                                 -1,196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (332 - 524) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
Patient placed on SBT with 5/0 and she
   maintains reasonable respiratory rate and RSBI after 5 minutes
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed  She clearly reponds to voice and follows commands briskly
   Labs / Radiology
   7.8 g/dL
   453 K/uL
   91 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   137 mEq/L
   25.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2142-10-18**]  05:30 AM
                             [**2142-10-18**]  08:09 AM
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
   WBC
   18.4
   15.8
   13.8
   13.1
   12.1
   8.7
   8.3
   Hct
   24.9
   25.4
   25.6
   25.7
   23.5
   23.9
   25.5
   Plt
   349
   328
   331
   [**Telephone/Fax (3) 995**]
   453
   Cr
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TropT
   0.05
   TCO2
   30
   29
   29
   Glucose
   76
   80
   85
   86
   91
   96
   91
   Other labs: PT / PTT / INR:13.0/30.9/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR--mild decrease in pulmonary opacities
   Assessment and Plan
   66yo female with history of COPD and s/p esophagectomy following
   perforation and now admit to ICU with hypoxemic respiratory failure and
   peri-intubation period complicated by pneumothorax and hypotension.
   She has had difficulty with weaning from ventilatory support with
   significant tachypnea resulting with wean from PSV.  This incapacity to
   wean may well be related to significant dynamic hyperinflation with
   airflow obstruction resulting in mechanical disadvantage in the setting
   of chronic obstructive lung disease.  In addition, pulmonary edema,
   restriction from chest wall mechanics all must be considered for the
   rapid shallow breathing pattern identified.  Her agitation does appear
   to be well controlled and this does appear to be true persistence of
   ventilatory failure.
   1)Respiratory Failure-
   Vanco/Zosyn
   Haldol PRN
   Continued negative fluid balance today
   This morning she has very favorable findings to suggest possible
   successful liberation from ventilation
   Extubation today and will move to BIPAP support post extubation on an
   overnight and as needed basis.
   Hold TF
s for extubation
   HR well controlled with digoxin and beta blocker
   2)Chronic Obstructive Pulmonary Disease-
   Continue with albuterol/atrovent
   Will have to auscultate for possible obstruction post extubation
   3)Hypotension-
   Improved, tolerating diuresis
   Continue Vanco/Zosyn for Rx of possible pulmonary infection
   Continue to follow BP
   Will maintain bacground pain control
   4)Pneumothorax-
   F/U CXR after tube to water seal today
   Hope for resolution with extubation completed.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-22**] 09:24 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-10-24 07:27:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2142-10-23**] 01:10 PM
 EKG - At [**2142-10-23**] 02:03 PM
   -Extubated yesterday morning
   -Pain at her baseline; put on her home regimen; started on Fentanyl
   patch.
   -ESBL Kleibsiella in sputum; pt getting better with Zosyn (moderate
   sensitivity)
   - Pt witH SVT of ~20 beats yesterday; beta blocker dose to 37.5 mg PO
   TID from 25 mg PO TID
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Gentamicin - [**2142-10-22**] 11:44 AM
   Vancomycin - [**2142-10-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-24**] 05:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-10-23**] 08:02 AM
   Morphine Sulfate - [**2142-10-23**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-23**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2142-10-24**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 94 (75 - 108) bpm
   BP: 136/59(77) {108/38(48) - 160/89(96)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,379 mL
                                                                    490 mL
   PO:
             TF:
                                                                    709 mL
                                                                    257 mL
   IVF:
                                                                  1,269 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  4,106 mL
                                                                    990 mL
   Urine:
                                                                  3,810 mL
                                                                    940 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,727 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 511 (387 - 511) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: [**Last Name (LF) 1022**], [**First Name3 (LF) 1023**] in place clean
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No JVD visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Crackles : , Rhonchorous: bibasilary)
   Abdominal: Soft, Bowel sounds present, Tender: At her baseline; mostly
   in RLQ
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   533 K/uL
   8.1 g/dL
   99 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.0 mEq/L
   10 mg/dL
   99 mEq/L
   137 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
   WBC
   15.8
   13.8
   13.1
   12.1
   8.7
   8.3
   8.8
   Hct
   25.4
   25.6
   25.7
   23.5
   23.9
   25.5
   26.4
   Plt
   328
   331
   314
   333
   354
   453
   533
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   29
   29
   Glucose
   80
   85
   86
   91
   96
   91
   113
   99
   Other labs: PT / PTT / INR:12.9/30.9/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Severe COPD exacerbated by aspiration
   pneumonia. Also with R sided stable PTX on water seal..  Sputum with
   3+GNR and 2+ budding yeast c/w aspiration PNA now growing ESBL
   kleibsiella, moderate sensitive to zosyn; also on vancomycin. Extubated
   yesterday; doing well on 2 L NC. Afebrile; VS stable. Unchanged CXR.
   - Patient improving on Zosyn; if decompensates will start meropenem
   (day [**5-8**] of Vancomuycin and Zosyn respectively)
   - F/u remaining cultures.
   # Agitation: Improved w/haldol, seroquel.
   -Continue haldol PRN
   -Continue Quetitapine PRN
   # Tension Pneumothorax:  Chest tube on water seal without any drainage
   or air leak. Will be pulled out today by IP.
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday sisnce she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals.
   - f/u nutrition recs
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Stable over last couple of days.
   Initially concern for GI bleed given positive guaiacs but apparently
   this is a baseline issue, potentially d/t irritation at Jtube site.
   Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. Patient put back on her home regimen.
   - continue fentanyl patch and liquid morphine per [**Hospital1 1023**].
   # FEN: TF, IVF, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: Can go to the floor later today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-24**] 01:29 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-24 10:29:00 Physician Attending Progress Note
Chief Complaint: Acute Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2142-10-23**] 01:10 PM
 EKG - At [**2142-10-23**] 02:03 PM
   Extubated without event yesterday
   Pain regimen being adjusted and pain is at baseline
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Gentamicin - [**2142-10-22**] 11:44 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-24**] 05:59 AM
   Vancomycin - [**2142-10-24**] 08:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2142-10-23**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-23**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2142-10-24**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-24**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 79 (75 - 108) bpm
   BP: 135/48(71) {108/38(56) - 160/67(85)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,379 mL
                                                                    821 mL
   PO:
             TF:
                                                                    709 mL
                                                                    359 mL
   IVF:
                                                                  1,269 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  4,106 mL
                                                                  1,215 mL
   Urine:
                                                                  3,810 mL
                                                                  1,165 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,727 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 511 (511 - 511) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   533 K/uL
   99 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.0 mEq/L
   10 mg/dL
   99 mEq/L
   137 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2142-10-18**]  06:03 PM
                             [**2142-10-19**]  05:00 AM
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
   WBC
   15.8
   13.8
   13.1
   12.1
   8.7
   8.3
   8.8
   Hct
   25.4
   25.6
   25.7
   23.5
   23.9
   25.5
   26.4
   Plt
   328
   331
   314
   333
   354
   453
   533
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   29
   29
   Glucose
   80
   85
   86
   91
   96
   91
   113
   99
   Other labs: PT / PTT / INR:12.9/30.9/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR--significant limitation from positioning.  PTX does
   apppear to be resolved.  ETT is out.  Suggestion of increased pulmonary
   infiltrates c/w edema
   Assessment and Plan
   66 yo female with significant COPD now admit with acute respiratory
   failure in the setting of likely combination of aspiration and mucus
   plugging with Klebsiella from [**2142-10-19**] culture now showing evidence of
   significant bacterial infection.  She has had substantial improvement
   over time and now is extubated and returned to 2 lpm O2
   supplementation.  The pneumothorax does appear to be controlled with CT
   in place.
   1)Respiratory Failure
Acute and hypoxic
   -Vanco/Zosyn to continue with treatment to pneumonia
hospital acquired
   and given cultures with enterococcal UTI will have to consider Vanco
   D/C in that setting
   -Ambulate
   -Incentive Spirometry
   -continue with negative fluid balance
   2)Chronic Obstructive Pulmonary Disease
   -Zopinex
   -
   3)Pneumothorax-
   -Minimal drainage
   -No leak with cough this morning
   -No PTX on CXR this morning
   -Will discuss with surgery and would favor D/C of chest tube today if
   surgery in agreement
   4)Chronic Pain
   -Dilaudid PRN
   -Fentanyl patch in place
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-24**] 01:29 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-10-25 07:24:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2142-10-24**] 02:30 PM
 PNEUMOTHORAX - At [**2142-10-24**] 03:00 PM
 CHEST TUBE PLACED - At [**2142-10-24**] 03:15 PM
 CHEST TUBE PLACED - At [**2142-10-24**] 03:30 PM
   Chest tube without air leak on water seal yesterday for almost 24
   hours. Normal CXR. Was pulled out and patient became SOB with clearing
   of right lung (still expanded) on post-chest tube CXR. Patient was
   re-intubated and right chest tube was re-placed by surgery.
   OG coiled in esophagus, was d/c'd
   Negative 1L balance goal achieved
   Vancomycin was stopped yesterday
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Gentamicin - [**2142-10-22**] 11:44 AM
   Vancomycin - [**2142-10-24**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-25**] 05:47 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-10-24**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2142-10-24**] 10:00 PM
   Other medications:
   Docusate Sodium (Liquid) 100 mg PO BID  [**10-17**]
   Senna 1 TAB PO BID:PRN  [**10-17**]
   Heparin 5000 UNIT SC TID  [**10-17**]
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Potassium Chloride Replacement (Oncology)  IV Sliding Scale  [**10-17**]
   Pantoprazole 40 mg IV Q24H  [**10-18**]
   Digoxin 0.125 mg PO DAILY  [**10-18**]
   Vitamin D 800 UNIT PO DAILY  [**10-18**]
   Miconazole Powder 2% 1 Appl TP QID:PRN
   Mirtazapine 7.5 mg PO HS  [**10-18**]
   Ondansetron 8 mg IV Q8H:PRN  [**10-18**]
   12. MED Promethazine 12.5 mg IV Q6H:PRN  [**10-18**] @ 0122
   Metoclopramide 10 mg PO QIDACHS
   Calcium Carbonate 500 mg PO BID
   Acetaminophen 325-650 mg PO
   Xopenex *NF* 0.63 mg IH Q2prn
   Haloperidol 1-2 mg IV Q4H:PRN agitation
   Quetiapine Fumarate 25 mg PO HS
   Metoprolol Tartrate 37.5 mg PO TID
   Piperacillin-Tazobactam Na 2.25 g IV Q6H  [**10-24**]
   Ipratropium Bromide Neb 1 NEB IH Q6H:PRN  [**10-24**] @ 1357
   Fentanyl Citrate 25-100 mcg/hr IV DRIP Midazolam 0.5-2 mg/hr IV DRIP
   TITRATE TO Sedation
   Norepinephrine 0.03-0.25 mcg/kg/min IV DRIP TITRATE TO MAP >65
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-25**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 93 (49 - 99) bpm
   BP: 132/49(69) {94/38(52) - 190/71(97)} mmHg
   RR: 14 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (6 - 9)mmHg
   Total In:
                                                                  2,480 mL
                                                                    296 mL
   PO:
   TF:
                                                                    506 mL
   IVF:
                                                                  1,824 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  3,565 mL
                                                                    610 mL
   Urine:
                                                                  3,510 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,085 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 150
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.34/60/122/34/4
   Ve: 4.8 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: ), Lot of fluid on chest auscultation
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   489 K/uL
   7.7 g/dL
   72 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   141 mEq/L
   24.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
                             [**2142-10-24**]  05:26 PM
                             [**2142-10-25**]  04:43 AM
   WBC
   13.1
   12.1
   8.7
   8.3
   8.8
   9.4
   Hct
   25.7
   23.5
   23.9
   25.5
   26.4
   24.6
   Plt
   [**Telephone/Fax (3) 1066**]53
   533
   489
   Cr
   0.4
   0.4
   0.4
   0.4
   0.5
   0.4
   TCO2
   29
   29
   34
   Glucose
   86
   91
   96
   91
   113
   99
   72
   Other labs: PT / PTT / INR:13.4/31.2/1.2, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Severe COPD exacerbated by aspiration
   pneumonia. Also with R sided stable PTX on suction for post-pulling
   chest tube. Drained 10cc in 24 hours. Sputum with 3+GNR and 2+ budding
   yeast c/w aspiration PNA now growing ESBL kleibsiella, moderate
   sensitive to zosyn; also on vancomycin. Extubated yesterday; doing well
   on 2 L NC. Afebrile; VS stable. Unchanged CXR.
   - Switch to Pressure support [**11-4**] and ABGs afterwards
   - Patient improving on Zosyn; if decompensates will start meropenem
   (day [**6-7**])
   - F/u remaining cultures.
   # Agitation: Improved w/haldol, seroquel.
   -Continue haldol PRN
   -Continue Quetitapine PRN
   # Tension Pneumothorax:  Chest tube on suction without air leak or
   drainage. Will change it to water seal today. We need to consider
   pleurodesis after prior failed attempt of removal.
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals.
   - f/u nutrition recs
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Stable over last couple of days.
   Initially concern for GI bleed given positive guaiacs but apparently
   this is a baseline issue, potentially d/t irritation at Jtube site.
   Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. Patient put back on her home regimen.
   - continue fentanyl patch and liquid morphine per PEG.
   # FEN: TF, IVF, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: Can go to the floor later today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-25 11:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2142-10-24**] 02:30 PM
 PNEUMOTHORAX - At [**2142-10-24**] 03:00 PM
 CHEST TUBE PLACED - At [**2142-10-24**] 03:15 PM
 CHEST TUBE PLACED - At [**2142-10-24**] 03:30 PM
   Patient with worsening respiratory distress requiring re-intubation and
   concerning for recurrence of pneumothorax driving respiratory
   distress/tachypnea and recurrent intubation required.
   Patient to PSV and decreased FIO2 this morning
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Gentamicin - [**2142-10-22**] 11:44 AM
   Vancomycin - [**2142-10-24**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-25**] 05:47 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-25**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2142-10-25**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 113 (49 - 113) bpm
   BP: 145/59(76) {94/38(40) - 190/71(97)} mmHg
   RR: 22 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 5 (5 - 9)mmHg
   Total In:
                                                                  2,480 mL
                                                                    412 mL
   PO:
   TF:
                                                                    506 mL
   IVF:
                                                                  1,824 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  3,565 mL
                                                                    910 mL
   Urine:
                                                                  3,510 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,085 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 150
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.34/60/122/34/4
   Ve: 5.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   489 K/uL
   72 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   141 mEq/L
   24.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-10-19**]  05:05 AM
                             [**2142-10-20**]  04:42 AM
                             [**2142-10-20**]  11:20 AM
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
                             [**2142-10-24**]  05:26 PM
                             [**2142-10-25**]  04:43 AM
   WBC
   13.1
   12.1
   8.7
   8.3
   8.8
   9.4
   Hct
   25.7
   23.5
   23.9
   25.5
   26.4
   24.6
   Plt
   [**Telephone/Fax (3) 1066**]53
   533
   489
   Cr
   0.4
   0.4
   0.4
   0.4
   0.5
   0.4
   TCO2
   29
   29
   34
   Glucose
   86
   91
   96
   91
   113
   99
   72
   Other labs: PT / PTT / INR:13.4/31.2/1.2, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Pending from this morning
   Assessment and Plan
   yo female with history of significant COPD and s/p esophagectomy
   following perforation and now with significant discomfort patient has
   gastric ileus noted and in the setting of pneumothorax has had
   recurrent respiratory failure despite significant improvment leading to
   successful extubation.  This may well be related to recurrence of
   pneumothorax or possibly persistence of pneumothorax not visualized on
   plain film performed prior to D/C of chest tube.
   1)Respiratory Failure--Acute on Chronic Hypercarbic Failure
   -Zosyn
   -Continue chest tube to suction
   -Move to SBT today if possible.
   -PSV support in interim
   2)Pneumothorax-
   -Chest Tube to suction
   -Move to water seal with leak resolved
   -Favor continueing of chest tube until extubated.
   3)Gastroparesis-Aspiration did not appear to be at issue with acute
   changes yesterday.  Will still work to promote motility with-
   -Reglan
   4)Pain
will continue with IV pain control and will need increasing
   doses from current Fentanyl of 100ug/hr
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: In place
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2142-10-26 06:30:00 Physician Resident Progress Note
Chief Complaint: 66 year old female with complicated GI history s/p
   esophagectomy [**2139**], advanced COPD who was transferred from the floor
   with acute respiratory distress requiring emergent intubation and
   course complicated by pneumothorax s/p right subclavian insertion.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2142-10-25**] 04:00 PM
 INVASIVE VENTILATION - START [**2142-10-25**] 08:31 PM
   -Increased fentanyl and pain control improved
   -RISBI of 40; extuabted... hours later was wheezing; gave nebs and
   improved. Posible larnyngeal edema: received steroids. At 8 PM with
   tons of secretions, labor breathing, looking very sick, gas with
   hypoxia and hypercarbia: reintubated
   Chest x-ray from post-intubation with tube ending essentially at the
   carina. Tube was pulled back.  Repeat chest x-ray with ET tube > 1 cm
   from carina will likely stil need to be pulled back.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2142-10-24**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-25**] 05:47 AM
   Piperacillin - [**2142-10-26**] 04:57 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-10-25**] 06:21 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-25**] 09:48 PM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2142-10-26**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 94 (86 - 125) bpm
   BP: 122/57(73) {88/42(40) - 162/80(92)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                    776 mL
                                                                    752 mL
   PO:
   TF:
   IVF:
                                                                    776 mL
                                                                    753 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    262 mL
   Urine:
                                                                  1,925 mL
                                                                    255 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,769 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (350 - 400) mL
   Vt (Spontaneous): 330 (330 - 6,000) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/46/69/29/5
   Ve: 3.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: cachetic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) no murmur
   appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), decreased breath sounds at
   bases bilaterally, worse on the left than the right
   Abdominal: Soft, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: sedated, opens eyes to voice, moves all 4 extremities
   however appears to be non-purposeful
   Labs / Radiology
   484 K/uL
   7.6 g/dL
   84 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   24.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
                             [**2142-10-24**]  05:26 PM
                             [**2142-10-25**]  04:43 AM
                             [**2142-10-25**]  07:46 PM
                             [**2142-10-25**]  11:01 PM
                             [**2142-10-26**]  03:31 AM
   WBC
   12.1
   8.7
   8.3
   8.8
   9.4
   6.0
   Hct
   23.5
   23.9
   25.5
   26.4
   24.6
   24.8
   Plt
   333
   354
   453
   533
   489
   484
   Cr
   0.4
   0.4
   0.4
   0.5
   0.4
   0.4
   TCO2
   34
   34
   32
   Glucose
   91
   96
   91
   113
   99
   72
   84
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Severe COPD exacerbated by aspiration
   pneumonia. Also with R sided stable PTX on suction for post-pulling
   chest tube. Previous Sputum with 3+GNR and 2+ budding yeast c/w
   aspiration PNA with ESBL kleibsiella; also on vancomycin. Extubated
   yesterday then had to be reintubated for respiratory failure.
   - sputum culture
   - change zosyn to meropenem for improved coverage today would be [**7-8**] if
   count from beginning of zosyn, otherwise [**10-26**] is now new day 1
   - F/u remaining cultures.
   # Agitation: Improved w/haldol, seroquel.
   -Continue haldol PRN
   -Continue Quetitapine PRN
   # Tension Pneumothorax:  Chest tube on suction without air leak or
   drainage. Will change it to water seal today. We need to consider
   pleurodesis after prior failed attempt of removal.
   - touch base with thoracic surgery regarding plan for chest tube
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals.
   - as per nursing OG tube is in incorrect place, nursing will try to
   place again, otherwise we will try
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Stable over last couple of days.
   Initially concern for GI bleed given positive guaiacs but apparently
   this is a baseline issue, potentially d/t irritation at Jtube site.
   Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. Patient put back on her home regimen.
   - continue fentanyl patch and liquid morphine per PEG.
   # FEN: TF, replete electrolytes (gave IV magnesium and neutraphos this
   morning)
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: ICU pending extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-26 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2142-10-25**] 04:00 PM
 INVASIVE VENTILATION - START [**2142-10-25**] 08:31 PM
   -Patient extubated but then evolved significant respiratory distress
   and re-intubation in the setting of stridor and secreatinons and
   incapacity to maintain ventilation
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2142-10-24**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-25**] 05:47 AM
   Piperacillin - [**2142-10-26**] 04:57 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-10-25**] 06:21 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-26**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-26**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 97 (89 - 125) bpm
   BP: 137/60(84) {88/42(55) - 162/90(101)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 5)mmHg
   Total In:
                                                                    776 mL
                                                                    892 mL
   PO:
   TF:
   IVF:
                                                                    776 mL
                                                                    892 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    442 mL
   Urine:
                                                                  1,925 mL
                                                                    435 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,769 mL
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 316 (316 - 6,000) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.44/46/69/29/5
   Ve: 4.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Diminished: )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   484 K/uL
   84 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   24.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2142-10-21**]  04:18 AM
                             [**2142-10-22**]  04:59 AM
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
                             [**2142-10-24**]  05:26 PM
                             [**2142-10-25**]  04:43 AM
                             [**2142-10-25**]  07:46 PM
                             [**2142-10-25**]  11:01 PM
                             [**2142-10-26**]  03:31 AM
   WBC
   12.1
   8.7
   8.3
   8.8
   9.4
   6.0
   Hct
   23.5
   23.9
   25.5
   26.4
   24.6
   24.8
   Plt
   333
   354
   453
   533
   489
   484
   Cr
   0.4
   0.4
   0.4
   0.5
   0.4
   0.4
   TCO2
   34
   34
   32
   Glucose
   91
   96
   91
   113
   99
   72
   84
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: ABG--7.44/46/69
   Imaging: CXR-ETT on carina in initial film.  Increased opacification in
   the left chest suggesting effusion in addition to infiltrate
   Assessment and Plan
   66 yo female with severe chronic obstructive lung disease now with
   recurrent acute in the setting of chronic respiratory failure.  The
   source of the chronic failure is her chronic obstructive lung disease.
   Her acute need for re-intubation initially was related to pneumonthorax
   and resulting tachypnea, dynamic hyperinflation and hypercarbic
   respiratory failure. Upon second re-intubation patient evolved
   significant hypoxemic respiratory compromise and evolution of left
   sided pulmonary opacities and effusion.
   1)Respiratory Failure-Acute-primarily hypoxemic at this time
   -Will need PSV to continue and have continued support until new
   stability can be established.  For specific interventions
   -Pneumonthorax
chest tube to suction
   -COPD
Continue with PSV support and if extubation attempted will need
   to extubate to Non-invasive Ventilation
   -Upper Airway Edema
This in combiantion with likely COPD exacerbation
   will make for systemic steroids being indicated
   -Pnuemonia-_Vanco/Meropenem for renewed coverage with concern for
   ventilatory associated pneumonia
   -If not favorable for extubation will have to consider tracheostomy for
   long term support.
   -If re-extubated will need to be extubated to non-invasive ventilation
   2)Pneumonthorax-
   -maintain suction
   3)Nutrition-
   -will need to obtain Gi access for feeds and will attempt to place OGT
   for feeds.
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-10-27 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -meropenem added to regimen, zosyn d/c
   -self-extubated this morning
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2142-10-24**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-25**] 05:47 AM
   Piperacillin - [**2142-10-26**] 04:57 AM
   Meropenem - [**2142-10-27**] 01:47 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-26**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: tearful this morning, wants tube out (prior to
   extubation), otherwise denies any pain
   Flowsheet Data as of  [**2142-10-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 77 (75 - 108) bpm
   BP: 114/49(65) {105/44(57) - 150/90(101)} mmHg
   RR: 10 (9 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,520 mL
                                                                    278 mL
   PO:
             TF:
   IVF:
                                                                  1,520 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                    627 mL
                                                                    291 mL
   Urine:
                                                                    620 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (316 - 412) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 146
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.39/54/168/33/6
   Ve: 3.9 L/min
   PaO2 / FiO2: 420
   Physical Examination
   GEN: tearful but NAD, intubated no sedation
   HEENT: NCAT MMM anicteric
   CV: RRR S1S2 no m/r/g
   PULM: coarse rhonchi throughout
   ABD: soft nontender nondistended hypoactive bs
   EXT: WWP 1+dp pulses
   Labs / Radiology
   595 K/uL
   7.9 g/dL
   71 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   10 mg/dL
   104 mEq/L
   144 mEq/L
   24.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2142-10-23**]  04:38 AM
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
                             [**2142-10-24**]  05:26 PM
                             [**2142-10-25**]  04:43 AM
                             [**2142-10-25**]  07:46 PM
                             [**2142-10-25**]  11:01 PM
                             [**2142-10-26**]  03:31 AM
                             [**2142-10-26**]  10:48 PM
                             [**2142-10-27**]  04:27 AM
   WBC
   8.3
   8.8
   9.4
   6.0
   12.4
   Hct
   25.5
   26.4
   24.6
   24.8
   24.9
   Plt
   453
   533
   489
   484
   595
   Cr
   0.4
   0.5
   0.4
   0.4
   0.3
   TCO2
   34
   34
   32
   34
   Glucose
   91
   113
   99
   72
   84
   71
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Severe COPD exacerbated by aspiration
   pneumonia. Also with R sided stable PTX on suction for post-pulling
   chest tube. Previous Sputum with 3+GNR and 2+ budding yeast c/w
   aspiration PNA with ESBL kleibsiella treated with meropenem.
   Self-extubated this morning. Will likely need to be reintubated however
   initially patient said this was ok if she was adequeately sedated, now
   saying she doesn
t want to be reintubated at all. Currently on shovel
   mask doing well.
   - f/u cultures
   - continue meropenem (started yesterday)
   -discuss w/patient her goals and whether intubation/trach would be next
   step if she is in respiratory distress
   -currently off sedation
   # Agitation: Improved w/haldol, seroquel. Patient appeared tearful this
   AM. Would benefit from psych evalutation to ensure she has capacity to
   make decisions regarding her health and that depression and anxiety
   [**Male First Name (un) **]
t play a role. She is currently on haldol only as needed and
   quetiapine which have helped with her agitation. However we may not be
   treating her anxiety and/or depression adequately. Also with patients
   family concerned and not certain what is best, there is some conflict
   as to whether she needs to be reintubated.
   -psych consult
   -Continue haldol PRN
   -Continue Quetitapine PRN
   # Tension Pneumothorax:  Chest tube on suction today. Follow up with
   thoracic as to when we can switch to water seal.
   - thoracic surgery regarding plan for chest tube
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals. Will not pursue NG tube at this
   point.
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Stable over last couple of days.
   Initially concern for GI bleed given positive guaiacs but apparently
   this is a baseline issue, potentially d/t irritation at Jtube site.
   Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. Patient put back on her home regimen.
   -          may need to rethink her pain medication as this is patients
   main complaint, will redoes her PO medications
   -          if not reintubated on sedation, continue fentanyl patch.
   # FEN: TF, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-27 09:53:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yr old female with COPD on home oxygen, gastroparesis/FTT admitted
   w/esophg perforation s/p esophagectomy. To [**Hospital Unit Name **] with resp failure.
   Course complicated by PTX, 2 failed extubations (at least one
   precipitated by PTX), aspiration
   24 Hour Events:
   *Self-extubated
   *Change Zosyn to Merepenem
   *Unsuccessful attempts to insert NGT
   History obtained from MICU housestaff
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-10-25**] 05:47 AM
   Piperacillin - [**2142-10-26**] 04:57 AM
   Meropenem - [**2142-10-27**] 08:30 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-10-27**] 08:45 AM
   Other medications:
   colace, hep SQ, PPI, digoxin, vit D, reglan, seroquel, metoprolol,
   atrovent, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-27**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 96 (75 - 108) bpm
   BP: 143/70(71) {105/44(57) - 150/78(94)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,520 mL
                                                                    426 mL
   PO:
             TF:
   IVF:
                                                                  1,520 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                    627 mL
                                                                    531 mL
   Urine:
                                                                    620 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 388 (358 - 412) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 146
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.36/58/135/33/5
   Ve: 3.9 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, No(t) Endotracheal tube,
   No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), scattered rhonchi; coarse
   BS; Right CT to low suction
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   595 K/uL
   71 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   10 mg/dL
   104 mEq/L
   144 mEq/L
   24.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2142-10-23**]  12:00 PM
                             [**2142-10-24**]  03:14 AM
                             [**2142-10-24**]  05:26 PM
                             [**2142-10-25**]  04:43 AM
                             [**2142-10-25**]  07:46 PM
                             [**2142-10-25**]  11:01 PM
                             [**2142-10-26**]  03:31 AM
                             [**2142-10-26**]  10:48 PM
                             [**2142-10-27**]  04:27 AM
                             [**2142-10-27**]  07:52 AM
   WBC
   8.8
   9.4
   6.0
   12.4
   Hct
   26.4
   24.6
   24.8
   24.9
   Plt
   533
   489
   484
   595
   Cr
   0.5
   0.4
   0.4
   0.3
   TCO2
   34
   34
   32
   34
   34
   Glucose
   113
   99
   72
   84
   71
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: left HD elevated (seen on prior films), small lung fields
   Assessment and Plan
   66 year old female with COPD, gastroparesis, chronic pain with resp
   failure. Course notable for recurrent PTX, diff extubating due to
   PTX/aspiration + underlying COPD
   1. Resp failure: self extubated this morning but resp status remains
   tenuous
   *Continue abx for ESBL
   *continue CT decompression
   *alb/atrov nebs
   2. Agitation: On haldol and seroquel
   *Call psych back now that pt is extubated
   3. Gastroparesis
   *Will attempt TF's through J-tube
   4. Leukocytosis
   *Unclear origin, pt afebrile
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   This evening, pt remains extubated, high FiO2 requirement, suctioned
   vigorously earlier in the day and less congested. Remains high risk for
   re-intubation. Will check ABG later tonight with initiation of NIPPV if
   developing hypercarbia or increased work of breathing.
   After extubation, pt voiced to RN her wish not to be further intubated
   or to undergo trach. Her family remains in conflict over this decision,
   with varying opinions for DNI vs. re-intubate vs. trach. Psych consult
   sought who stated that pt currently not capable of making her own
   decisions. She remains full code and will try to meet with family
   tomorrow.
   Pt remains critically ill.
   Additional 25 minutes spent.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2142-10-27**] 22:12 ------
   Subsequently, pt developed worsening resp distress with increased work
   of breathing and hypercarbia on blood gas. Discussed NIPPV, but did not
   pursue due to secretions. Re-intubated. CXR post-intubation pending. Of
   note during earlier suctioning, bile contents recovered.
   Additional 20 minutes spent.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2142-10-27**] 23:31 ------

2142-10-28 07:38:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2142-10-28**] 12:00 AM
 ARTERIAL LINE - START [**2142-10-28**] 12:43 AM
   Patient self extubated yesterday morning. Required intubation a few
   hours later.
   Psych consult: patient delirious; may affect her taking decissions.
   Arterial line placed
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2142-10-26**] 04:57 AM
   Meropenem - [**2142-10-28**] 03:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-10-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-28**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 85 (74 - 96) bpm
   BP: 100/47(61) {84/47(61) - 114/60(340)} mmHg
   RR: 26 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,223 mL
                                                                    533 mL
   PO:
                                                                    240 mL
             TF:
                                                                    185 mL
                                                                    112 mL
   IVF:
                                                                    678 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  1,186 mL
                                                                    480 mL
   Urine:
                                                                  1,185 mL
                                                                    310 mL
   NG:
   170 mL
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 215
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/53/77/33/8
   Ve: 6.3 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds present, Thin
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Normal
   Labs / Radiology
   519 K/uL
   7.4 g/dL
   91 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.7 mEq/L
   8 mg/dL
   105 mEq/L
   141 mEq/L
   24.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2142-10-25**]  11:01 PM
                             [**2142-10-26**]  03:31 AM
                             [**2142-10-26**]  10:48 PM
                             [**2142-10-27**]  04:27 AM
                             [**2142-10-27**]  07:52 AM
                             [**2142-10-27**]  10:46 PM
                             [**2142-10-28**]  12:43 AM
                             [**2142-10-28**]  01:52 AM
                             [**2142-10-28**]  02:02 AM
                             [**2142-10-28**]  04:20 AM
   WBC
   6.0
   12.4
   9.9
   10.2
   Hct
   24.8
   24.9
   23.3
   24.6
   Plt
   [**Telephone/Fax (3) 1185**]19
   Cr
   0.4
   0.3
   0.4
   TCO2
   32
   34
   34
   38
   34
   36
   Glucose
   84
   71
   91
   Other labs: PT / PTT / INR:13.0/31.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Severe COPD exacerbated by aspiration
   pneumonia. Also with R sided stable PTX on suction for post-pulling
   chest tube. Previous Sputum with 3+GNR and 2+ budding yeast c/w
   aspiration PNA with ESBL kleibsiella treated with meropenem.
   Self-extubated this morning. Will likely need to be reintubated however
   initially patient said this was ok if she was adequeately sedated, now
   saying she doesn
t want to be reintubated at all. Currently on shovel
   mask doing well.
   - f/u cultures
   - continue meropenem (started yesterday)
   -discuss w/patient her goals and whether intubation/trach would be next
   step if she is in respiratory distress
   -currently off sedation
   # Agitation: Improved w/haldol, seroquel. Patient appeared tearful this
   AM. Would benefit from psych evalutation to ensure she has capacity to
   make decisions regarding her health and that depression and anxiety
   [**Male First Name (un) **]
t play a role. She is currently on haldol only as needed and
   quetiapine which have helped with her agitation. However we may not be
   treating her anxiety and/or depression adequately. Also with patients
   family concerned and not certain what is best, there is some conflict
   as to whether she needs to be reintubated.
   -psych consult
   -Continue haldol PRN
   -Continue Quetitapine PRN
   # Tension Pneumothorax:  Chest tube on suction today. Follow up with
   thoracic as to when we can switch to water seal.
   - thoracic surgery regarding plan for chest tube
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals. Will not pursue NG tube at this
   point.
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  Stable over last couple of days.
   Initially concern for GI bleed given positive guaiacs but apparently
   this is a baseline issue, potentially d/t irritation at Jtube site.
   Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. Patient put back on her home regimen.
   -          may need to rethink her pain medication as this is patients
   main complaint, will redoes her PO medications
   -          if not reintubated on sedation, continue fentanyl patch.
   # FEN: TF, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Arterial Line - [**2142-10-28**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-28 10:24:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 66 year old female with COPD, s/p esophagectomy, chornic pain,
   gastroparesis  with recurr. Aspiration/respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2142-10-28**] 12:00 AM
 ARTERIAL LINE - START [**2142-10-28**] 12:43 AM
   *Self extubated
   *While extubated, she voiced a desire to refuse future intubation/trach
   but was seen by Psych who determined that she was not competent to make
   decisions regarding her care
   *She later became tachypneic, increased WOB, hypercarbic and was
   re-intubated
   *Continued N/V post-intubation; on intermittent OGT suction. Some
   coffee grds emesis
   History obtained from Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2142-10-26**] 04:57 AM
   Meropenem - [**2142-10-28**] 08:15 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-10-27**] 04:00 PM
   Other medications: PPI, digoxin, vit D, mirtazapine, reglan, calcium
   carbonate, seroquel, metoprolol, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-28**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 79 (74 - 94) bpm
   BP: 92/41(55) {84/41(54) - 114/60(340)} mmHg
   RR: 15 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,223 mL
                                                                    838 mL
   PO:
                                                                    240 mL
             TF:
                                                                    185 mL
                                                                    112 mL
   IVF:
                                                                    678 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,186 mL
                                                                    530 mL
   Urine:
                                                                  1,185 mL
                                                                    360 mL
   NG:
   170 mL
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 215
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.43/53/77/33/8
   Ve: 5.5 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General : cachectic, sedated, intubated
   Lungs: decreased BS; right CT to water seal
   CV: RRR
   Abd:soft +bs, erythema near feeding tube site
   Ext thin, boots
   Labs / Radiology
   7.4 g/dL
   519 K/uL
   91 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.7 mEq/L
   8 mg/dL
   105 mEq/L
   141 mEq/L
   24.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2142-10-25**]  11:01 PM
                             [**2142-10-26**]  03:31 AM
                             [**2142-10-26**]  10:48 PM
                             [**2142-10-27**]  04:27 AM
                             [**2142-10-27**]  07:52 AM
                             [**2142-10-27**]  10:46 PM
                             [**2142-10-28**]  12:43 AM
                             [**2142-10-28**]  01:52 AM
                             [**2142-10-28**]  02:02 AM
                             [**2142-10-28**]  04:20 AM
   WBC
   6.0
   12.4
   9.9
   10.2
   Hct
   24.8
   24.9
   23.3
   24.6
   Plt
   [**Telephone/Fax (3) 1185**]19
   Cr
   0.4
   0.3
   0.4
   TCO2
   32
   34
   34
   38
   34
   36
   Glucose
   84
   71
   91
   Other labs: PT / PTT / INR:13.0/31.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.4, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   CXR: increased left effusion. Left hemithorax opacification from
   yesterday resolved. Left HD no longer elevated as had occurred during
   last few days
   Assessment and Plan
   66 year old female with COPD on home oxygen, hx esophagectomy,
   gastropareis,s GI bleed, chronic pain. I
   1. Respiratory failure: contributing factors:
   *Ongoing aspiration in the setting of continued gastroparesis
   *ESBL Klebsiella PNA
   *Loculated effusion
   *Underlying COPD
   *[**Name (NI) 1186**] PTX on chest tube
   Now requiring mech ventilation over ~10 days. Likelihood of soon being
   independent of MV low given above factors. Will continue to optimize
   all aggravating factors
   -continue Meripneme for Klebsiella
   *continue inhalers, CT to water seal
   - A major issue remains future goals given low liklihood of soon being
   independent from mech ventilation. Family has been at odds regarding
   goals, and though pt voiced yesterday a desire to avoid further
   invasive support , not deemed competent by Psych.
   -Will set up family meeting
   -Hold on further plans (e.g. pleurodesis) until further clarified
   whether goals more comfort vs trach/pleurodesis +/- TPN
   2. GI bleed: continues to have coffee grds, though amount unchanged
   relatively throughout hospitalization
   On PPI- change to [**Hospital1 **] dosing. Re check Hct
   3. Malnutrtion: Between repeated extubation/intubations over the past
   week, has not been getting goal TF
s. for now will try to introduce
   TF
s at low rate.  [**Month (only) 8**] need transition to TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Arterial Line - [**2142-10-28**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   20 minutes spent updating family this afternoon.
   Spoke with pt
s daughter and 2 sisters about pt
s re-intubation last
   night, the multiple co-morbidities that have contibuted to her
   continued need for mechanical ventilation and low likeihood of her
   being able to breathe independently. They are well aware of her current
   circumstances, but report that the pt
s husband and son remain hopeful
   that Mrs. [**Known lastname 852**] will turn the corner and improve, based more so on
   acute events (was off the ventilator yesterday) rather than long term
   course. Though daughter is health care proxy, this difference in
   opinion amongst family members makes it hard for her to make major
   medical decisions for her mother. The patient
s son and husband were
   not here today and I was unable to talk to them. Have urged meeting
   with ICU team, with all family members present to discuss pt
s long
   term outlook and further plans of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2142-10-28**] 15:09 ------

2142-10-29 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events overnight.
   On A/C 400 x13, 5, 50% overnight, PS trial this AM [**6-4**]
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2142-10-29**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-10-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-29**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 89 (74 - 101) bpm
   BP: 81/43(55) {81/35(46) - 125/62(81)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (3 - 9)mmHg
   Total In:
                                                                  2,154 mL
                                                                    709 mL
   PO:
   TF:
                                                                    242 mL
                                                                    107 mL
   IVF:
                                                                  1,622 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    315 mL
   Urine:
                                                                    870 mL
                                                                    315 mL
   NG:
                                                                    270 mL
   Stool:
   Drains:
   Balance:
                                                                  1,014 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.43/53/108/32/7
   Ve: 6.5 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds present, Thin
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Able to respond to simple commands, move extremities.
   Labs / Radiology
   421 K/uL
   6.9 g/dL
   82 mg/dL
   0.3 mg/dL
   32 mEq/L
   2.6 mEq/L
   5 mg/dL
   106 mEq/L
   142 mEq/L
   21.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2142-10-27**]  04:27 AM
                             [**2142-10-27**]  07:52 AM
                             [**2142-10-27**]  10:46 PM
                             [**2142-10-28**]  12:43 AM
                             [**2142-10-28**]  01:52 AM
                             [**2142-10-28**]  02:02 AM
                             [**2142-10-28**]  04:20 AM
                             [**2142-10-28**]  04:57 PM
                             [**2142-10-29**]  03:00 AM
                             [**2142-10-29**]  03:07 AM
   WBC
   12.4
   9.9
   10.2
   7.0
   Hct
   24.9
   23.3
   24.6
   22.3
   21.6
   Plt
   595
   518
   519
   421
   Cr
   0.3
   0.4
   0.3
   TCO2
   34
   38
   34
   36
   36
   Glucose
   71
   91
   82
   Other labs: PT / PTT / INR:13.8/27.8/1.2, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.1, Amylase
   / Lipase:52/10, Differential-Neuts:90.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:5.4 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL,
   LDH:199 IU/L, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   # Hypoxic respiratory failure:  Patient with severe COPD and possible
   aspiration PNA with recent left side iatrogenic PTX. She had 3 +GNR in
   sputum and 2+ budding yeasts and cultures with ESBL kleibsiella.
   Patient on day 4 of meropenem. Patient has required re-intubation 3
   times, and will likely continue to be difficult to extubate.. Patient
   with copious secretions, from GI tract and now very sedated.
   -          f/u cultures
   -          Continue meropenem (Day [**4-7**])
   -          Discuss goals of care with family; she qualifies for
   tracheostomy and possibly to pleurodesis. However, it would depend in
   what her wishes are. Patient more oriented this AM.  Family meeting
   today..
   -          PS trial this morning and consider extubation.
   .
   # Agitation: Patient receiving haldol and seroquel per psych recs. Also
   on midaz and fentaynl gtt.
   .
   # Tension Pneumothorax:  Patient with PTX after right subclavian line
   placement that required emergent needle decompression and posterior
   chest tube. Then, PTX recurred after chest tube was taken out. Now
   resolved on CXR, no leaking on the chest tube nor drainage in the last
   24 hours. However, she may be candidate for pleurodesis at this point.
   - f/u with CT [**Doctor First Name 91**] regarding pleurodesis
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   # Gastroparesis/nausea/malnutrition:  Patient has been shown to be
   absorbing via TF thus will continue with adjustments per nutrition
   recommendations. Follow residuals. Will not pursue NG tube at this
   point.
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   # Chronic Blood Loss Anemia:  HCT this AM 21.6 from 22.3.  Stable over
   last couple of days. Initially concern for GI bleed given positive
   guaiacs but apparently this is a baseline issue, potentially d/t
   irritation at Jtube site. Will continue to monitor on labs.
   - serial hematocrits
   - transfusion goal < 21
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty. Patient put back on her home regimen.
   -          may need to rethink her pain medication as this is patients
   main complaint, will redoes her PO medications
   -          if not reintubated on sedation, continue fentanyl patch.
   # FEN: TF, replete electrolytes
   # Prophylaxis: SC  heparin, [**Hospital1 **], PPI
   # Code: Full code
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   # Lines : RIJ, PIV
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-28**] 12:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Arterial Line - [**2142-10-28**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-30 07:19:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, pneumothorax
   24 Hour Events:
   - CXR: No change in lines and tubes or appearance of chest. Right chest
   tube sideport still in an extrathoracic location and should be
   advanced. Discussed with [** 616**] who were comfortable with location.
   - Pt was hypotensive MAP 55 and SBP high 70's.  Received 500cc bolus
   x3L with appropriate response.  Titrated down on fentaynl and midazolam
   gtt.
   - [**Name (NI) **] - pt will most likely need pleurodesis, hold on steriods
   If patient needs trach and pleuro can be done by IP
   - NIF: 17
   - Scheduled family meeting for Tuesday at 3pm, page [**Name (NI) 616**] and
   palliative care if you want them to come to the meeting.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2142-10-30**] 02:03 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 85 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-10-29**] 07:42 PM
   Fentanyl - [**2142-10-29**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2142-10-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-30**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 81 (70 - 109) bpm
   BP: 128/70(92) {76/42(54) - 137/75(99)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (4 - 10)mmHg
   Total In:
                                                                  3,068 mL
                                                                    960 mL
   PO:
   TF:
                                                                    444 mL
                                                                     88 mL
   IVF:
                                                                  2,494 mL
                                                                    872 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    758 mL
   Urine:
                                                                  1,630 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,438 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (167 - 544) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/60/98.[**Numeric Identifier 20**]/33/9
   NIF: -17 cmH2O
   Ve: 6.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds present, Thin
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Able to respond to simple commands, move extremities.
   Labs / Radiology
   439 K/uL
   7.2 g/dL
   80 mg/dL
   0.2 mg/dL
   33 mEq/L
   4.3 mEq/L
   3 mg/dL
   104 mEq/L
   139 mEq/L
   22.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2142-10-28**]  02:02 AM
                             [**2142-10-28**]  04:20 AM
                             [**2142-10-28**]  04:57 PM
                             [**2142-10-29**]  03:00 AM
                             [**2142-10-29**]  03:07 AM
                             [**2142-10-29**]  07:36 AM
                             [**2142-10-29**]  08:00 AM
                             [**2142-10-29**]  01:26 PM
                             [**2142-10-29**]  01:39 PM
                             [**2142-10-30**]  01:36 AM
   WBC
   10.2
   7.0
   6.4
   Hct
   24.6
   22.3
   21.6
   24.1
   22.9
   Plt
   [**Telephone/Fax (3) 1279**]
   Cr
   0.3
   0.2
   TCO2
   36
   36
   34
   34
   39
   Glucose
   82
   80
   Other labs: PT / PTT / INR:12.7/32.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.1, Amylase
   / Lipase:52/10, Differential-Neuts:71.9 %, Band:0.0 %, Lymph:19.9 %,
   Mono:4.9 %, Eos:3.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL,
   LDH:199 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation.
   .
   # Hypoxic respiratory failure:  Patient with severe COPD and possible
   aspiration PNA with recent left-sided iatrogenic PTX. Currently on day
   5 of meropenem for ESBL Klebsiella.  She has failed extubation x3, and
   given her instrinsic lung disease and recent aspiration pneumonia, will
   be very difficult to succesfuly extubate in the short-term, especially
   with NIF of -17. Patient has been tolerating PS [**9-7**], 50% well since
   yesterday morning.  RISB of <50 this AM, so PS reduced to [**6-4**].
   - Appreciate IP recs. Tentative plan for tracheostomy on Wednesday, NPO
   at midnight with TF held.  IP to discuss with CT [**Doctor First Name 91**] regarding open
   versus percutaneous trach.
   - Discussed with CT surgery yesterday. Patient will likely require
   pleurodesis, which can be done in conjunction with trach either by OP
   or CT [**Doctor First Name 91**] depending on open versus percuatenous approach.
   - Family meeting planned for 3 pm today.
   - Continue PS 5/5 and trend Vt and RR.
   .
   # Hypotension: Patient with hypotension (MAP 50s) overnight that was
   fluid responsive.  Remains afebrile without a leukocytosis. CVP ~5,
   indicating likely intravascular volume depletion.  Patient with low
   albumin indicating poor nutrional status, and may benefit from colloid
   or pRBC.
   - IVF bolus as necessary for MAP<60.
   - 1 u PRBC
   .
   # Agitation: Patient receiving haldol and seroquel per psych recs. Also
   on midaz and fentaynl gtt.
   - Titrate down on midazolam and fentaynl gtt as possible.
   .
   # Tension Pneumothorax:  Patient with PTX after right subclavian line
   placement that required emergent needle decompression and posterior
   chest tube. Patient has had recurrent pneumonthorax after chest tube
   removal, and thus may be a candidate for sclerotherapy.
   - f/u with CT surgery
   .
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - Consider systemic steroids if patient will not undergo sclerotherapy
   per CT surgery.
   - titrate oxygen for sats >88-94%
   .
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.
   - continue digoxin
   - continue metoprolol, increase if BP tolerates
   .
   # Gastroparesis/nausea/malnutrition:  Difficulty advancing TF rate, and
   patient with hypoalbuminemia.  Given intravascular volume depletion as
   above, will need to consider TPN.
   - [**Hospital1 **] PPI
   - Nutrition c/s for TPN recs.
   - continue calcium, vitamin D
   .
   # Chronic Blood Loss Anemia:  HCT this AM 22.9 from 24.1.  Stable over
   last couple of days. Concern for GI bleed given positive guaiacs but
   this may be a chronic issue.
   - Trend hematocrit
   .
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   .
   # FEN: TF and NPO at midnight, replete electrolytes, IVF prn
   .
   # PPx: Heparin SQ and PPI
   .
   # Code: Full code
   .
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   .
   # Lines : RIJ, PIV, FC, Chest tube, rectal tube
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-10-30**] 02:55 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Arterial Line - [**2142-10-28**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-10-31 06:02:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   - Patient was uncomfortable on PS 5/5, switched back to [**9-7**].
   - Family meeting, patient will not have trach or pleurodesis. Plan for
   extubation tomorrow morning. Made DNR.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2142-10-31**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2142-10-30**] 03:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-10-31**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 60 (59 - 90) bpm
   BP: 113/58(77) {78/46(61) - 134/70(94)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (4 - 354)mmHg
   Total In:
                                                                  3,495 mL
                                                                    476 mL
   PO:
   TF:
                                                                    340 mL
   IVF:
                                                                  2,281 mL
                                                                    232 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,608 mL
                                                                    720 mL
   Urine:
                                                                  2,405 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    887 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (295 - 366) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 4.5 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds absent, Thin
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Able to respond to simple commands, move extremities.  Nods
   or shakes head to questioning.
   Labs / Radiology
   427 K/uL
   8.9 g/dL
   110 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.9 mEq/L
   7 mg/dL
   105 mEq/L
   143 mEq/L
   27.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2142-10-28**]  04:20 AM
                             [**2142-10-28**]  04:57 PM
                             [**2142-10-29**]  03:00 AM
                             [**2142-10-29**]  03:07 AM
                             [**2142-10-29**]  07:36 AM
                             [**2142-10-29**]  08:00 AM
                             [**2142-10-29**]  01:26 PM
                             [**2142-10-29**]  01:39 PM
                             [**2142-10-30**]  01:36 AM
                             [**2142-10-31**]  04:11 AM
   WBC
   10.2
   7.0
   6.4
   7.0
   Hct
   24.6
   22.3
   21.6
   24.1
   22.9
   27.6
   Plt
   [**Telephone/Fax (3) 1306**]27
   Cr
   0.3
   0.2
   0.3
   TCO2
   36
   34
   34
   39
   Glucose
   82
   80
   110
   Other labs: PT / PTT / INR:12.7/32.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.1, Amylase
   / Lipase:52/10, Differential-Neuts:71.9 %, Band:0.0 %, Lymph:19.9 %,
   Mono:4.9 %, Eos:3.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL,
   LDH:199 IU/L, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR ([**10-30**]): Mild-to-moderate pulmonary edema is stable but
   moderate bilateral pleural
   effusions have increased. ET tube tip at the upper margin of the
   clavicles
   should be advanced at least 2 cm but precise localization is difficult
   because
   of kyphotic positioning. Right pleural tube has short intrathoracic
   excursion and may have backed out since the prior study. Gastric tube
   ends in the stomach below the elevated left hemidiaphragm. Right
   jugular line probably ends in the SVC. No pneumothorax. Heart size top
   normal.
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation with multiple failed
   extubations.
   .
   # Hypoxic respiratory failure:  Patient with severe COPD and possible
   aspiration PNA with recent left-sided iatrogenic PTX. Currently on day
   6 of meropenem for ESBL Klebsiella.  She has failed extubation x3, and
   given her instrinsic lung disease and recent aspiration pneumonia, will
   be very difficult to succesfuly extubate in the short-term, especially
   with NIF of -17. Following family meeting yesterday, decision made to
   not proceed with trach and to plan for extubation today.  Patient also
   made DNR.
   - Extubate this AM with morphine prn if patient has discomfort
   - Continue meropenem for now (day 6)
   .
   # Hypotension: Patient received additional 500 cc bolus yesterday in
   addition to 1u PRBCs.  Hypotension likely secondary to intravascular
   volume depletion in setting of hypoalbuminemia and decreased oncotic
   pressure.
   - Monitor BP and fluid bolus as necessary
   .
   # Agitation: Patient receiving haldol and seroquel per psych recs. Also
   on midaz and fentaynl gtt.
   - Titrate down on midazolam and fentaynl gtt as possible.
   .
   # Tension Pneumothorax:  Patient with PTX after right subclavian line
   placement that required emergent needle decompression and posterior
   chest tube. Patient has had recurrent pneumonthorax after chest tube.
   .
   # COPD: Severe emphysema at baseline which is significant contributor
   of her respiratory failure.
   - continue nebulizers standing
   - titrate oxygen for sats >88-94%
   .
   # Multifocal Atrial Tachycardia: Currently her rate is in the 70s,
   improved with metoprolol. Increased dose yesterday since she was
   tachycardic.  Patient with subtherapeutic digoxin level yesterday,
   received additional 0.125 mg.
   - continue digoxin and metoprolol
   .
   # Gastroparesis/nausea/malnutrition:  Difficulty advancing TF rate, and
   patient with hypoalbuminemia.  Given intravascular volume depletion as
   above, TPN started
   - Continue TPN
   - [**Hospital1 **] PPI
   - continue calcium, vitamin D
   .
   # Chronic Blood Loss Anemia:  HCT this AM 22.9 from 24.1.  Stable over
   last couple of days. Concern for GI bleed given positive guaiacs but
   this may be a chronic issue.
   - Trend hematocrit
   .
   # Chronic Back Pain/Compression Fractures:  Patient with multiple
   thoracic compression fractures.  Per orthopedics no role for
   kyphoplasty.
   .
   # FEN: TPN, replete electrolytes, IVF prn
   .
   # PPx: Heparin SQ and PPI
   .
   # Code: Full code
   .
   # Communication: [**Telephone/Fax (1) 849**] Daughter [**Known firstname 341**] [**Last Name (NamePattern1) 850**].  Alternate is
   son [**Telephone/Fax (1) 851**].
   .
   # Lines : RIJ, PIV, FC, chest tube, rectal tube
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2142-10-30**] 06:15 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Arterial Line - [**2142-10-28**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-11-01 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events overnight
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2142-10-31**] 08:18 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 100 mcg/hour
   Morphine Sulfate - 14 mg/hour
   Other ICU medications:
   Fentanyl - [**2142-10-31**] 10:04 AM
   Lorazepam (Ativan) - [**2142-10-31**] 10:05 AM
   Morphine Sulfate - [**2142-10-31**] 11:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-11-1**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 119 (63 - 128) bpm
   BP: 114/61(78) {83/40(56) - 163/82(111)} mmHg
   RR: 19 (7 - 31) insp/min
   SpO2: 50%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,638 mL
                                                                    184 mL
   PO:
             TF:
   IVF:
                                                                    877 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    490 mL
   Urine:
                                                                  2,100 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -472 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (391 - 391) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 50%
   ABG: ////
   Ve: 4.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   427 K/uL
   8.9 g/dL
   110 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.9 mEq/L
   7 mg/dL
   105 mEq/L
   143 mEq/L
   27.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2142-10-28**]  04:20 AM
                             [**2142-10-28**]  04:57 PM
                             [**2142-10-29**]  03:00 AM
                             [**2142-10-29**]  03:07 AM
                             [**2142-10-29**]  07:36 AM
                             [**2142-10-29**]  08:00 AM
                             [**2142-10-29**]  01:26 PM
                             [**2142-10-29**]  01:39 PM
                             [**2142-10-30**]  01:36 AM
                             [**2142-10-31**]  04:11 AM
   WBC
   10.2
   7.0
   6.4
   7.0
   Hct
   24.6
   22.3
   21.6
   24.1
   22.9
   27.6
   Plt
   [**Telephone/Fax (3) 1306**]27
   Cr
   0.3
   0.2
   0.3
   TCO2
   36
   34
   34
   39
   Glucose
   82
   80
   110
   Other labs: PT / PTT / INR:12.7/32.2/1.1, CK / CKMB /
   Troponin-T:50/6/0.05, ALT / AST:[**9-12**], Alk Phos / T Bili:56/0.1, Amylase
   / Lipase:52/10, Differential-Neuts:71.9 %, Band:0.0 %, Lymph:19.9 %,
   Mono:4.9 %, Eos:3.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL,
   LDH:199 IU/L, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   66 year old female with COPD on 2L oxygen, esophageal perforation s/p
   esophagectomy and severe gastroparesis transferred to the [**Hospital Unit Name 4**] for
   acute respiratory failure requiring intubation with multiple failed
   extubations.  After family meeting two days ago, patient was extubated
   yesterday and made CMO.
   # CMO: Patient currently extubated and comfort measures only.  Continue
   morphine gtt and comfort care.
   - Will contact family when patient passes
   - Will contact CT surgery per their request if patient passes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-10-20**] 05:15 PM
   Arterial Line - [**2142-10-28**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: